2116-06-28 09:25:00 Physician Attending Progress Note
Chief Complaint: fever, cholestasis, GNR bacteremia (? Cholangitis)
   arf, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2116-6-27**] 11:14 PM
 EKG - At [**2116-6-28**] 12:38 AM
 BLOOD CULTURED - At [**2116-6-28**] 05:00 AM
 FEVER - 103.5
F - [**2116-6-28**] 04:00 AM
   zosyn continued (GNR bacteremia)
   ERPC this am
   blood cx's sent
   Attempt CVL but pt with n/v.  A-line placed
BP with MAPS > 60 with IVF.
   Hypotensive this am pre -rounds,  Spiked temp to 103.5.  CVL placed.
   Levophed started and pt intubated. To tolerate ERCP.
   ecg with new (rate related) TWI.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-28**] 02:47 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Meperidine (Demerol) - [**2116-6-28**] 04:53 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-28**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 38.4
C (101.2
   HR: 127 (85 - 127) bpm
   BP: 115/49(69) {83/38(51) - 154/101(110)} mmHg
   RR: 20 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  4,520 mL
                                                                    323 mL
   PO:
             TF:
   IVF:
                                                                  1,020 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                     98 mL
   Urine:
                                                                    100 mL
                                                                     73 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                  4,420 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   PIP: 32 cmH2O
   SpO2: 99%
   ABG: 7.32/37/92.[**Numeric Identifier 1176**]/17/-6 NC
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese, tachypneic, jaundiced
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Wheezes
   : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: ruq, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neuro:  sedated
   Labs / Radiology
   10.2 g/dL
   126 K/uL
   101 mg/dL
   6.2 mg/dL (5.8)
   17 mEq/L
   4.0 mEq/L
   68 mg/dL
   109 mEq/L
   137 mEq/L
   31.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2116-6-27**]  10:59 PM
                             [**2116-6-27**]  11:12 PM
                             [**2116-6-28**]  04:14 AM
                             [**2116-6-28**]  05:33 AM
   WBC
   10.8
   5.7
   Hct
   29.2
   31.8
   Plt
   131
   126
   Cr
   5.8
   6.2
   TCO2
   23
   20
   Glucose
   108
   101
   Other labs: PT / PTT / INR:15.0/30.1/1.3, ALT / AST:115/54, Alk Phos /
   T Bili:148/2.8, Lactic Acid:2.3 mmol/L, Albumin:3.1 g/dL, LDH:218 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Imaging: cxr--
   Microbiology: bl pending
   no urine output
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   Hypotensve this am despite aggressive IVF.  Became more tachypneic
   intubated for ercp.
   Primary issues:
   # Hypotension/sepsis
   IVF bolus for CVP > 10, , a-line for invasive BP monitoring
   continue antibx
f/u cx data
   wean pressors fro MAP > 60
   #  Bilary infection--Cholangitis (RUQ pain, jaundice, fever) vs
   cholecystitis, stones, ischemic gut
   With GNR bacteremia (also with heart murmur,? new)
   f/u OSH cx
s, repeat cxs here
   continue zosyn +  cipro, renally dose
   ercp this am
   submit OSH  mrcp/us for read
   repeat ruq
   surgical c/s
   f/u lfts, a/l
   #ARF
anuric
   likely atn from sepsis, hyptension/poor perfusion
   renal dose meds, urine lytes, no acute indication for HD at this time
   follow acid base status
   cvp
   serial lytes
   # vent--monitor abg, adjust settings to correct for met acidosis
   # tachycardia--appears ST, TWI likely demand ischemia
   sedation, pressors, add vasopressin and wean levophed
   # heart murmur--tte (SBE given bactermeia)
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   20 Gauge - [**2116-6-27**] 10:07 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Comments: R IJ [**6-28**]
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   During am rounds, after ercp,  pt became tachy to 130-180 range.
   Initially able to maintain BP/maps without increase in pressors
   Appeared in SVT by 12 lead .  Tried adenosine 6
 12, metoprolol 2.5
   resulted in brief improvement in rate.  Metoprolol seemed to lower BP
   further.  Shocked X 50 J without effect.  Placed NGT for abd
   decompression which helped along with IVF bolus. BPs respond, though
   still tachy  130
s.  Plan to try dig X 1 and amio.
   I spent an additional 30 minutes  crit care time.

2116-06-29 07:25:00 Physician Resident Progress Note
Chief Complaint: Septic shoch [**3-14**] acute cholangitis
   24 Hour Events:
 INVASIVE VENTILATION - START [**2116-6-28**] 08:02 AM
 EKG - At [**2116-6-28**] 08:50 AM
 MULTI LUMEN - START [**2116-6-28**] 09:30 AM
 FLUOROSCOPY - At [**2116-6-28**] 11:00 AM
 ERCP - At [**2116-6-28**] 11:00 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2116-6-28**] 12:24 PM
   shocked with 50 joules
 BLOOD CULTURED - At [**2116-6-28**] 02:45 PM
 URINE CULTURE - At [**2116-6-28**] 03:00 PM
 BLOOD CULTURED - At [**2116-6-28**] 03:15 PM
 ULTRASOUND - At [**2116-6-28**] 03:45 PM
   abdominal
 EKG - At [**2116-6-29**] 04:11 AM
 FEVER - 101.2
F - [**2116-6-28**] 07:45 AM
   Stones and sludge at the lower third of the common bile duct and middle
   third of the common bile duct (sphincterotomy, stone extraction)
   No aspirin/plavix/anticoagulants for 72 hours
   During am rounds, after ercp,  pt became tachy to 130-180 range.
   Initially able to maintain BP/maps without increase in pressors
   Appeared in SVT by 12 lead .  Tried adenosine 6
 12, metoprolol 5mgx
   2  resulted in brief improvement in rate.  Metoprolol seemed to lower
   BP further.  Shocked X 50 J without effect.  Placed NGT for abd
   decompression which helped along with IVF bolus. BPs respond, though
   still tachy  130
s.  tried dig X 1 and amio.
   Cholangitis with 4/4 e.coli bacteremia on blood cx [**6-26**], ercp today
   revealed CBD stones with pus removed. at noon went into SVT hr 180s,
   gave adenosine with no effect, lopressor dropped BP, sync shock with no
   effect,  then weaned levo and added vasopressin, amio loaded, hr 120s
   from 160s, repeat ecg showed atrial fibrillation, CVP 15 so well tanked
   - minimal UOP, Cr up to 7.3
   - switched over to CPAP
   - abd u/s with no ascites or evidence cholecystitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2116-6-28**] 12:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Adenosine - [**2116-6-28**] 12:10 PM
   Metoprolol - [**2116-6-28**] 01:00 PM
   Famotidine (Pepcid) - [**2116-6-28**] 08:27 PM
   Fentanyl - [**2116-6-28**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2116-6-28**] 11:54 PM
   Midazolam (Versed) - [**2116-6-29**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-6-29**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (98.0
   Tcurrent: 36.3
C (97.4
   HR: 119 (96 - 166) bpm
   BP: 115/64(82) {60/38(49) - 162/85(110)} mmHg
   RR: 22 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 14 (6 - 102)mmHg
   Total In:
                                                                  4,286 mL
                                                                  1,238 mL
   PO:
   TF:
   IVF:
                                                                  4,286 mL
                                                                  1,238 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    346 mL
   Urine:
                                                                    185 mL
                                                                    146 mL
   NG:
                                                                    275 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,826 mL
                                                                    892 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 610 (0 - 670) mL
   PS : 14 cmH2O
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.30/36/145/17/-7
   Ve: 9.5 L/min
   PaO2 / FiO2: 363
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   105 K/uL
   8.7 g/dL
   155 mg/dL
   7.4 mg/dL
   17 mEq/L
   4.8 mEq/L
   85 mg/dL
   106 mEq/L
   139 mEq/L
   28.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2116-6-27**]  11:12 PM
                             [**2116-6-28**]  04:14 AM
                             [**2116-6-28**]  05:33 AM
                             [**2116-6-28**]  02:39 PM
                             [**2116-6-28**]  03:07 PM
                             [**2116-6-28**]  05:55 PM
                             [**2116-6-28**]  08:30 PM
                             [**2116-6-28**]  08:39 PM
                             [**2116-6-29**]  04:59 AM
                             [**2116-6-29**]  05:18 AM
   WBC
   10.8
   5.7
   8.5
   Hct
   29.2
   31.8
   28.0
   Plt
   131
   126
   105
   Cr
   5.8
   6.2
   7.1
   7.3
   7.4
   TCO2
   20
   21
   20
   20
   18
   Glucose
   108
   101
   182
   147
   155
   Other labs: PT / PTT / INR:13.1/25.9/1.1, ALT / AST:69/30, Alk Phos / T
   Bili:104/1.5, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:188 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Imaging: CXR looks more volume overloaded
   Microbiology: 5/16 [**5-15**] pan [**Last Name (un) **] e.coli in blood
   [**6-28**] blood and urine ngtd
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   Hypotensve this am despite aggressive IVF.  Became more tachypneic
   intubated for ercp.
   .
   # Hypotension/sepsis
   Last CVP 15, patient well tanked and appears more volume overloaded on
   exam. Would favor avoiding more IVF.
   E.coli bacteremia [**3-14**] acute cholangitis, pan sensitive to Zosyn. No
   positive blood cx since [**6-26**], patient has deferevesced since ERCP
   drained stones and sludge.
   Continue weaning pressors fro MAP > 60.
   .
   #  Acute cholangitis (RUQ pain, jaundice, fever)
   S/P ERCP, continue IV abx with Zosyn. With E.Coli bacteremia (also with
   heart murmur,? new)
   continue zosyn +  cipro, renally dose for double coverage
   repeat ruq shows no evidence cholecystitis or ascites.
   - LFT's have trended downwards.
    .
   #ARF
oliguric
   likely atn from sepsis and hyptension
   renal dose meds, urine lytes c/w FENA 2.2
   no acute indication for HD but may be headed there.
   mantain euvolemic
   .
   # Respiratory
   -monitor abg, adjust settings to correct for met acidosis
   - plan to extubate once off pressors or on minimal pressor requirements
   - RSBI 86
    .
   # Atrial fibrillation
   - In setting of infection and severe stress response
   - No AC for 72 hrs per GI recs
   - Continue with amiodarone gtt and then transition to oral regimen
   - Would suspect resolution of atrial fib once he clears infection
   - f/u TTE
   - cards curbside to determine length tx with amiodarone in this setting
   .
   # heart murmur--tte (SBE given bactermeia)
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   20 Gauge - [**2116-6-27**] 10:07 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Comments: R IJ [**6-28**]
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 blocker
   VAP: chlorhexidine, HOB elevation, Mouth care, Daily wake up, RSBI
   FULL CODE
   DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   20 Gauge - [**2116-6-27**] 10:07 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-06-29 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   24 Hour Events:
 INVASIVE VENTILATION - START [**2116-6-28**] 08:02 AM
 EKG - At [**2116-6-28**] 08:50 AM
 MULTI LUMEN - START [**2116-6-28**] 09:30 AM
 FLUOROSCOPY - At [**2116-6-28**] 11:00 AM
 ERCP - At [**2116-6-28**] 11:00 AM --sphincterotomy with stone extraction
   developed tachyarrythmia
   attempted aggressive IVF,adenosine, lopressor, dig, cardioversion,
   started amio gtt,
   weaned levophed, added vasopressin , with slowed rhythm afib
 CARDIOVERSION/DEFIBRILLATION - At [**2116-6-28**] 12:24 PM
   shocked with 50joules
 BLOOD CULTURED - At [**2116-6-28**] 02:45 PM
 URINE CULTURE - At [**2116-6-28**] 03:00 PM
 BLOOD CULTURED - At [**2116-6-28**] 03:15 PM
 ULTRASOUND - At [**2116-6-28**] 03:45 PM
   abdominal--no ascitis, no evidence of chole
 EKG - At [**2116-6-29**] 04:11 AM
 FEVER - 101.2
F - [**2116-6-28**] 07:45 AM--> deferesced after ercp
   History obtained from ho
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2116-6-28**] 12:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Adenosine - [**2116-6-28**] 12:10 PM
   Metoprolol - [**2116-6-28**] 01:00 PM
   Famotidine (Pepcid) - [**2116-6-28**] 08:27 PM
   Midazolam (Versed) - [**2116-6-29**] 02:10 AM
   Heparin Sodium (Prophylaxis) - [**2116-6-29**] 07:54 AM
   Fentanyl - [**2116-6-29**] 09:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-29**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 123 (110 - 166) bpm
   BP: 133/74(96) {60/42(49) - 162/85(110)} mmHg
   RR: 23 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 14 (8 - 102)mmHg
   Total In:
                                                                  4,286 mL
                                                                  1,752 mL
   PO:
   TF:
   IVF:
                                                                  4,286 mL
                                                                  1,752 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    376 mL
   Urine:
                                                                    185 mL
                                                                    176 mL
   NG:
                                                                    275 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,826 mL
                                                                  1,376 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 630 (0 - 670) mL
   PS : 14 cmH2O
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.30/36/145/17/-7
   Ve: 10.2 L/min
   PaO2 / FiO2: 363
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   105 K/uL
   155 mg/dL
   7.4 mg/dL
   17 mEq/L
   4.8 mEq/L
   85 mg/dL
   106 mEq/L
   139 mEq/L
   28.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2116-6-27**]  11:12 PM
                             [**2116-6-28**]  04:14 AM
                             [**2116-6-28**]  05:33 AM
                             [**2116-6-28**]  02:39 PM
                             [**2116-6-28**]  03:07 PM
                             [**2116-6-28**]  05:55 PM
                             [**2116-6-28**]  08:30 PM
                             [**2116-6-28**]  08:39 PM
                             [**2116-6-29**]  04:59 AM
                             [**2116-6-29**]  05:18 AM
   WBC
   10.8
   5.7
   8.5
   Hct
   29.2
   31.8
   28.0
   Plt
   131
   126
   105
   Cr
   5.8
   6.2
   7.1
   7.3
   7.4
   TCO2
   20
   21
   20
   20
   18
   Glucose
   108
   101
   182
   147
   155
   Other labs: PT / PTT / INR:13.1/25.9/1.1, ALT / AST:69/30, Alk Phos / T
   Bili:104/1.5, Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:188 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Imaging: cxr--et low, ij ok, small volumes, wet
   Microbiology: osh bl cx [**6-26**]--pan [**Doctor Last Name **] e coli
   cx here--ngtd
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   Primary issues:
   # Hypotension/sepsis
e coli bacteremia from cholangitis
   IVF bolus for CVP > 10, , a-line for invasive BP monitoring
   continue antibx
f/u cx data
   wean pressors fro MAP > 60
   #  cholangitis--E coli bacteremia
   s/p ercp
   lfts normalizing
   f/u cx
   taper to I antibx (cipro)
   ercp this am
   repeat ruq without evidence of chole/ascitis
   remains NPO
NG hold sx
   #ARF
anuric
 now making some urine
   likely atn from sepsis
 hyptension/poor perfusion-- not yet plateuad
   renal dose meds, no acute indication for HD at this time though
   becoming uremic
   serial lytes
   start diuresis
   consider renal c/s ening f/u labs
   # vent--monitor abg, adjust settings to correct for met acidosis
   wean PS/P
   RSBI looks good but assess LV fx, would optimize vol status prior to
   extubation
   # tachycardia
afib
   In setting of sepsis
   Loading with amio
   Wean pressors
   Echo ordered
    # heart murmur--tte (SBE given bactermeia)
   echo epnding
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   20 Gauge - [**2116-6-27**] 10:07 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2116-06-30 07:31:00 Physician Resident Progress Note
Chief Complaint: Acute cholangitis/E.coli bacteremia/ARF
   24 Hour Events:
   - TTE shows mod/sev AS, LAE, LVH, EF 40%
   - started Ampicillin
   - Repositioned ET tube 2cm
   - Started PO Amiodarone, d/c'd gtt,
   - Started Insulin SS for finger sticks near 200
   - Echo -> biatrial enlargement, moderate regional systolic dysfunction
   of LV EF 45%, moderate-severe AS w/ VA of 0.8cm2
   - Overnight weaned off Norepi to vasopressin alone with MAP's in upper
   60's.
   - Repeat Cr in PM stable, and UOP 15-20cc per hour most of day/night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 11:34 AM
   Ciprofloxacin - [**2116-6-29**] 12:10 PM
   Ampicillin - [**2116-6-30**] 04:02 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2116-6-29**] 09:15 AM
   Famotidine (Pepcid) - [**2116-6-29**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2116-6-30**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-30**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 107 (90 - 123) bpm
   BP: 91/50(64) {91/50(64) - 136/77(98)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 10 (10 - 22)mmHg
   Total In:
                                                                  3,048 mL
                                                                    273 mL
   PO:
   TF:
   IVF:
                                                                  2,943 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                    836 mL
                                                                    182 mL
   Urine:
                                                                    486 mL
                                                                    182 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,212 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (400 - 580) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   SpO2: 95%
   ABG: 7.29/37/96.[**Numeric Identifier 244**]/17/-7
   Ve: 9.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg
   irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more sedated than
   yesteday
   Labs / Radiology
   108 K/uL
   8.3 g/dL
   125 mg/dL
   8.0 mg/dL
   17 mEq/L
   4.8 mEq/L
   97 mg/dL
   107 mEq/L
   141 mEq/L
   26.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2116-6-28**]  05:55 PM
                             [**2116-6-28**]  08:30 PM
                             [**2116-6-28**]  08:39 PM
                             [**2116-6-29**]  04:59 AM
                             [**2116-6-29**]  05:18 AM
                             [**2116-6-29**]  11:16 AM
                             [**2116-6-29**]  12:31 PM
                             [**2116-6-29**]  12:57 PM
                             [**2116-6-30**]  05:20 AM
                             [**2116-6-30**]  05:33 AM
   WBC
   8.5
   7.4
   Hct
   28.0
   26.7
   Plt
   105
   108
   Cr
   7.3
   7.4
   7.4
   8.0
   TCO2
   20
   20
   18
   20
   19
   19
   Glucose
   147
   155
   170
   125
   Other labs: PT / PTT / INR:13.3/29.1/1.1, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL, LDH:191 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:7.1 mg/dL
   Imaging: CXR stable, no more overload
   Microbiology: ngtd on blood cx
   [**Last Name (un) **] cx negative
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   .
   # Hypotension/sepsis
   - patient well tanked and did not receive anymore IVF yesterday, were
   able to wean off all pressors
   - Continue weaning pressors fro MAP > 60, unable to wean levophed
   completely off, plan to wean down sedation and then take off levophed
   and see if patient tolerates
   - UOP improving
   .
   #  Acute cholangitis (RUQ pain, jaundice, fever)
   - started on ampicillin given sensitivities for 7 day course starting
   [**6-29**] to end [**7-5**] for [**5-15**] positive blood cx with e.coli on [**6-26**]
   - yesterday's repeat ruq shows no evidence cholecystitis or ascites.
   - LFT's normalized
    .
   #ARF [**3-14**] ATN
oliguric, UOP 15-30cc/hr which has improved in last 24
   hours, would hold off renal consult given he may be turning the corner,
   Cr 8 from 7.4 but minimal change in GFR at this point
   -likely atn from sepsis and hypotension, add calcium carbonate 500mg
   tid
   -renal dose meds, urine lytes yesterday c/w FENA 2.2
   -no acute indication for HD but may be headed there.
   -mantain euvolemic, avoid further IVF
   .
   # Respiratory
   - monitor abg, met acidosis [**3-14**] ARF
   - plan to extubate today given off pressors and SBT trial did excellent
   with good ABG
   - RSBI 61
    .
   # Atrial fibrillation
   - In setting of infection and severe stress response
   - No AC for another 48 hrs per GI recs
   - Continue with amiodarone oral loading regimen and consider switching
   to lopressor
   - Would suspect resolution of atrial fib once he clears infection
   - f/u TTE shows mod/sev AS, LAE, LVH, EF 40%
   - hold off cards curbside to determine length tx with amiodarone in
   this setting
   .
   # Aortic stenosis- mod/sev, no vegetations
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   20 Gauge - [**2116-6-27**] 10:07 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Comments: R IJ [**6-28**]
   Prophylaxis:
   DVT: pneumoboots, sq heparin
   Stress ulcer: H2 blocker
   VAP: chlorhexidine, HOB elevation, Mouth care, Daily wake up, RSBI
   FULL CODE
   DISPO: ICU

2116-06-30 11:27:00 Physician Attending Progress Note
Chief Complaint: hypotension, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo M w/ prior hip surgery, BPH, [**Hospital **] transferred from OSH with GNR
   bacteremia, jaundice, leukocytosis, arf, hypotension c/w  biliary
   sepsis/ cholangitis
   24 Hour Events:
   echo--mod-sev AS, mild sym lvh
   amio load
   ssi started
   pressors weaned off this am
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 11:34 AM
   Ciprofloxacin - [**2116-6-29**] 12:10 PM
   Ampicillin - [**2116-6-30**] 04:02 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-6-29**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2116-6-30**] 07:38 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-30**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 96 (90 - 117) bpm
   BP: 99/55(69) {91/50(64) - 110/63(80)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 16 (10 - 22)mmHg
   Total In:
                                                                  3,048 mL
                                                                    389 mL
   PO:
   TF:
   IVF:
                                                                  2,943 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                    836 mL
                                                                    282 mL
   Urine:
                                                                    486 mL
                                                                    282 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,212 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 380 (380 - 580) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 61
   SpO2: 96%
   ABG: 7.30/38/91.[**Numeric Identifier 96**]/17/-6
   Ve: 8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), no rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  warm, Rash: , Jaundice
   Neurologic: Attentive, not following commands, Responds to: voice
   Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: normal
   Labs / Radiology
   8.3 g/dL
   108 K/uL
   125 mg/dL
   8.0 mg/dL (7.4)
   17 mEq/L
   4.8 mEq/L
   97 mg/dL
   107 mEq/L
   141 mEq/L
   26.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2116-6-28**]  08:30 PM
                             [**2116-6-28**]  08:39 PM
                             [**2116-6-29**]  04:59 AM
                             [**2116-6-29**]  05:18 AM
                             [**2116-6-29**]  11:16 AM
                             [**2116-6-29**]  12:31 PM
                             [**2116-6-29**]  12:57 PM
                             [**2116-6-30**]  05:20 AM
                             [**2116-6-30**]  05:33 AM
                             [**2116-6-30**]  09:33 AM
   WBC
   8.5
   7.4
   Hct
   28.0
   26.7
   Plt
   105
   108 (105)
   Cr
   7.3
   7.4
   7.4
   8.0
   TCO2
   20
   18
   20
   19
   19
   19
   Glucose
   147
   155
   170
   125
   Other labs: PT / PTT / INR:13.3/29.1/1.1, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL, LDH:191 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:7.1 mg/dL
   Imaging: cxr--rotated, ij et ok
   Microbiology: bl cx ngts [**6-27**]
   urine neg
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, [**Hospital **] transferred from OSH with
   biliary sepsis/cholangitis (GNR bacteremia, jaundice, leukocytosis) c/b
   arf and a fib
   Primary issues remains:
   # Hypotension / sepsis
e coli bacteremia from cholangitis
   Off pressors, adequ fluid resus
   #  cholangitis
pan [**Last Name (un) **] E coli bacteremia
   s/p ercp
 lfts normalized
   compete course amplicillin (Day 4)
   #  ARF
 likely atn from sepsis, hypotension
   Cr increasing
   now with improving u/o
   no acute indication for HD at this time though becoming more uremic
   serial lytes
   add cal carb for high phos
   # Resp failure/vent
   SBT, rsbi 61
   once more alert, sedation off  willl consider extubation
   # a-fib--In setting of sepsis
   Amio -
 transition to BB
   Echo with signficant as, OSH records from PCP regarding hx
   [**Name9 (PRE) **] on anticoagulation for now
   # heart murmur
AS, low concern for SBE
   ICU Care
   Nutrition:
   Comments: npo pending probable extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2116-07-01 07:52:00 Physician Resident Progress Note
Chief Complaint: Acute cholangitis
   24 Hour Events:
   -Began to have trouble with secretions six hours into his [**Last Name (LF) **], [**First Name3 (LF) **] he
   was put back on PSV overnight with sedation.  We will be holding this
   around midnight for another [**First Name3 (LF) **] in the AM
   -MAPs decreased with beta [**Last Name (LF) 368**], [**First Name3 (LF) **] d/c and kept with amiodarone.  We
   can re-attempt rate control when extubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 11:34 AM
   Ciprofloxacin - [**2116-6-29**] 12:10 PM
   Ampicillin - [**2116-7-1**] 05:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-6-30**] 07:31 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-1**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 100 (86 - 106) bpm
   BP: 92/50(63) {92/49(63) - 127/64(85)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 11 (10 - 16)mmHg
   Total In:
                                                                    702 mL
                                                                    216 mL
   PO:
   TF:
   IVF:
                                                                    447 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                    607 mL
                                                                    205 mL
   Urine:
                                                                    607 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     95 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (370 - 460) mL
   PS : 14 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   SpO2: 96%
   ABG: 7.29/34/144/16/-8
   Ve: 10.1 L/min
   PaO2 / FiO2: 288
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended, BS absent
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, not following commands
   Labs / Radiology
   150 K/uL
   8.7 g/dL
   66 mg/dL
   9.4 mg/dL
   16 mEq/L
   4.7 mEq/L
   109 mg/dL
   107 mEq/L
   142 mEq/L
   28.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2116-6-29**]  12:31 PM
                             [**2116-6-29**]  12:57 PM
                             [**2116-6-30**]  05:20 AM
                             [**2116-6-30**]  05:33 AM
                             [**2116-6-30**]  09:33 AM
                             [**2116-6-30**]  03:09 PM
                             [**2116-6-30**]  05:06 PM
                             [**2116-6-30**]  06:31 PM
                             [**2116-7-1**]  05:17 AM
                             [**2116-7-1**]  05:56 AM
   WBC
   7.4
   8.9
   Hct
   26.7
   28.5
   Plt
   108
   150
   Cr
   7.4
   8.0
   8.6
   9.4
   TCO2
   19
   19
   19
   19
   18
   17
   Glucose
   170
   125
   74
   66
   Other labs: PT / PTT / INR:13.3/29.1/1.1, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL, LDH:191 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:8.1 mg/dL
   Imaging: stable
   Microbiology: ngtd
   sputum- unremarkable
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   .
   # Sepsis
   - patient well tanked and did not receive anymore IVF yesterday, were
   able to wean off all pressors
   - Continue weaning pressors fro MAP > 60, unable to wean levophed
   completely off, plan to wean down sedation and then take off levophed
   and see if patient tolerates
   - UOP improving
   .
   #  Acute cholangitis (RUQ pain, jaundice, fever)
   - started on ampicillin given sensitivities for 7 day course starting
   [**6-29**] to end [**7-5**] for [**5-15**] positive blood cx with e.coli on [**6-26**]
   - yesterday's repeat ruq shows no evidence cholecystitis or ascites.
   - LFT's normalized
    .
   #ARF [**3-14**] ATN
oliguric, UOP 15-30cc/hr which has improved in last 24
   hours, would hold off renal consult given he may be turning the corner,
   Cr 8 from 7.4 but minimal change in GFR at this point
   -likely atn from sepsis and hypotension, add calcium carbonate 500mg
   tid
   -renal dose meds, urine lytes yesterday c/w FENA 2.2
   -no acute indication for HD but may be headed there.
   -mantain euvolemic, avoid further IVF
   .
   # Respiratory
   - monitor abg, met acidosis [**3-14**] ARF
   - plan to extubate today given off pressors and [**Month/Day (2) **] trial did excellent
   with good ABG
   - RSBI
    .
   # Atrial fibrillation
   - In setting of infection and severe stress response
   - No AC for another 48 hrs per GI recs
   - Continue with amiodarone oral loading regimen and consider switching
   to lopressor
   - Would suspect resolution of atrial fib once he clears infection
   - f/u TTE shows mod/sev AS, LAE, LVH, EF 40%
   - hold off cards curbside to determine length tx with amiodarone in
   this setting
   .
   # Aortic stenosis- mod/sev, no vegetations
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   20 Gauge - [**2116-6-27**] 10:07 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Comments: R IJ [**6-28**]
   Prophylaxis:
   DVT: pneumoboots, sq heparin
   Stress ulcer: H2 [**Month/Year (2) 368**]
   VAP: chlorhexidine, HOB elevation, Mouth care, Daily wake up, RSBI
   FULL CODE
   DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-01 12:10:00 Physician Attending Progress Note
Chief Complaint: cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo M w/ prior hip surgery, BPH, [**Hospital **] transferred from OSH with
   biliary sepsis/cholangitis (GNR bacteremia, jaundice, leukocytosis) c/b
   arf and a fib
   24 Hour Events:
   secretions yesterday during sbt--> resting on PS
   SBT this am
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 11:34 AM
   Ciprofloxacin - [**2116-6-29**] 12:10 PM
   Ampicillin - [**2116-7-1**] 05:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-6-30**] 07:31 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-1**] 08:07 AM
   Dextrose 50% - [**2116-7-1**] 10:25 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-1**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 110 (87 - 110) bpm
   BP: 133/63(86) {92/49(63) - 133/64(86)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 9 (9 - 15)mmHg
   Total In:
                                                                    702 mL
                                                                    395 mL
   PO:
   TF:
   IVF:
                                                                    447 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                    607 mL
                                                                    385 mL
   Urine:
                                                                    607 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     95 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (370 - 460) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   SpO2: 99%
   ABG: 7.29/33/131/16/-9
   Ve: 12.8 L/min
   PaO2 / FiO2: 262
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic) no rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   hypoactive
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   150 K/uL
   75 mg/dL
   9.4 mg/dL
   16 mEq/L (17)
   4.7 mEq/L
   109 mg/dL
   107 mEq/L
   142 mEq/L
   28.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2116-6-30**]  05:20 AM
                             [**2116-6-30**]  05:33 AM
                             [**2116-6-30**]  09:33 AM
                             [**2116-6-30**]  03:09 PM
                             [**2116-6-30**]  05:06 PM
                             [**2116-6-30**]  06:31 PM
                             [**2116-7-1**]  05:17 AM
                             [**2116-7-1**]  05:56 AM
                             [**2116-7-1**]  08:41 AM
                             [**2116-7-1**]  11:14 AM
   WBC
   7.4
   8.9
   Hct
   26.7
   28.5
   Plt
   108
   150
   Cr
   8.0
   8.6
   9.4
   TCO2
   19
   19
   19
   18
   17
   18
   17
   Glucose
   125
   74
   66
   61
   75
   Other labs: PT / PTT / INR:13.3/29.1/1.1, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL, LDH:191 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:8.1 mg/dL
   Imaging: cxr:  wet, layering effusions
   Microbiology: ngtd blood cx since admit
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, [**Hospital **] transferred from OSH with
   biliary sepsis/cholangitis (GNR bacteremia, jaundice, leukocytosis) c/b
   arf and a fib
   Renal failure continues to worsen, though making urine, now with BUN >
   100, and poor MS, making it difficult to extubate
   Primary issues remains:
   #  ARF
 atn from sepsis, hypotension
   Cr increasing depite making urine
   Consider attemtps at gentle diurese
appears vol up though not grossly
   overloaded, uremia likely furtehr contributing to neec for continued
   intuabtion
   Renal consult for possible dialysis
   serial lytes
   d/c calc carb as still npo
   # Hypotension / sepsis
e coli bacteremia from cholangitis
   Remains off  pressors, adequ fluid resus
   #  cholangitis
pan [**Last Name (un) **] E coli bacteremia, lfts normalized
   compete course amplicillin (Day 5
   # Resp failure/vent
   SBT, rsbi 61 but with porr mental status  and met acidosis holding  up
   extubation
   once more alert, sedation off  willl consider extubation, possible HD
   pending renal c/s
   # a-fib--In setting of sepsis
   Amio -
   Hold on anticoagulation for now
   ICU Care
   Nutrition:
   Comments: npo
 start TF s as not currently extubation candidtae
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2116-07-02 07:37:00 Physician Resident Progress Note
Chief Complaint: Acute cholangitis
   24 Hour Events:
 DIALYSIS CATHETER - START [**2116-7-1**] 07:14 PM
 URINE CULTURE - At [**2116-7-1**] 08:30 PM
   - adjusted vent for worsening acidosis, switched to AC to help him blow
   off more CO2, recheck gas much improved
   - HD line placed by renal, to start HD tomorrow
   - b/l Cr 1.3-1.6 per [**2-18**] PCP records which were faxed
   - placed renal u/s order and checking urine eos, lytes
   - flipped back into SR at 4pm
   - hypotension resolved with stopping sedation MAP in 80s from 60s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 11:34 AM
   Ciprofloxacin - [**2116-6-29**] 12:10 PM
   Ampicillin - [**2116-7-1**] 04:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-1**] 04:00 PM
   Dextrose 50% - [**2116-7-1**] 05:13 PM
   Famotidine (Pepcid) - [**2116-7-1**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-2**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.9
   HR: 66 (60 - 110) bpm
   BP: 127/52(77) {90/39(58) - 144/63(90)} mmHg
   RR: 22 (22 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 12 (9 - 14)mmHg
   Total In:
                                                                    879 mL
                                                                    279 mL
   PO:
   TF:
                                                                     51 mL
                                                                    103 mL
   IVF:
                                                                    578 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    744 mL
                                                                     95 mL
   Urine:
                                                                    744 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    135 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 440 (390 - 440) mL
   PS : 8 cmH2O
   RR (Set): 25
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/25/134/13/-9
   Ve: 14.1 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, not following commands
   Labs / Radiology
   163 K/uL
   7.6 g/dL
   123 mg/dL
   10.0 mg/dL
   13 mEq/L
   4.4 mEq/L
   122 mg/dL
   110 mEq/L
   143 mEq/L
   24.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-6-30**]  06:31 PM
                             [**2116-7-1**]  05:17 AM
                             [**2116-7-1**]  05:56 AM
                             [**2116-7-1**]  08:41 AM
                             [**2116-7-1**]  11:14 AM
                             [**2116-7-1**]  04:45 PM
                             [**2116-7-1**]  04:56 PM
                             [**2116-7-1**]  09:40 PM
                             [**2116-7-2**]  04:20 AM
                             [**2116-7-2**]  04:30 AM
   WBC
   8.9
   10.5
   9.4
   Hct
   28.5
   29.2
   24.0
   Plt
   150
   174
   163
   Cr
   9.4
   9.5
   10.0
   TCO2
   18
   17
   18
   17
   17
   14
   15
   Glucose
   66
   61
   75
   69
   65
   123
   Other labs: PT / PTT / INR:13.9/25.9/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.4 mg/dL, Mg++:2.6 mg/dL, PO4:8.1 mg/dL
   Imaging: CXR stable
   Microbiology: [**6-30**]
    RESPIRATORY CULTURE (Preliminary):
         ? OROPHARYNGEAL FLORA ABSENT.
         YEAST.    SPARSE GROWTH
   blood cx ngtd
   urine cx ngtd
   ECG: SR
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   .
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever)
   - started on ampicillin given sensitivities for 7 day course starting
   [**6-29**] to end [**7-5**] for [**5-15**] positive blood cx with e.coli on [**6-26**]
   - ruq shows no evidence cholecystitis or ascites.
   - LFT's normalized
    .
   #ARF [**3-14**] ATN
oliguric, UOP 15-30cc/hr, Cr still increasing minimal
   change in GFR at this point
   -  HD line placed yesterday, to start HD today
   - dense atn from sepsis and hypotension, lanthanum per OG tube
   - renal dose meds, urine lytes yesterday c/w FENA 2.2, urine eos
   negative
   - f/u renal u/s
   - mantain euvolemic, needs volume removed during HD today
   - contact[**Name (NI) **] PCP [**Last Name (NamePattern4) **]. [**First Name (STitle) 2842**], b/l Cr 1.3-1.6 in [**2-18**]
   .
   # Respiratory
   - monitor abg, met acidosis [**3-14**] ARF, improved with AC support, continue
   on current vent settings and give PS trial in afternoon after HD
   - to be dialyzed today to help clear mental status and help with volume
   removal and then extubation once mentally clears
    .
   # Altered mental status
   - suspect related to uremia howevere pt. has plt dysfunction and would
   check CT Head to ensure to bleed
   - f/u urine and blood cx ngtd
   - minimal sedation for comfort
   .
   # Atrial fibrillation
   - In setting of infection and severe stress response, flipped back into
   SR yest 4pm
   - No AC indicated
   - d/c amiodarone
   - f/u TTE shows mod/sev AS, LAE, LVH, EF 40%
   .
   # Aortic stenosis- mod/sev, no vegetations
   ICU Care
   Nutrition: Tube feedings
   Glycemic Control:  Regular insulin sliding scale
    Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   20 Gauge - [**2116-6-27**] 10:07 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Comments: R IJ [**6-28**]
    Prophylaxis:
   DVT: pneumoboots, sq heparin
   Stress ulcer: H2 blocker
   VAP: chlorhexidine, HOB elevation, Mouth care, Daily wake up, RSBI
   FULL CODE
   DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-1**] 02:31 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-02 10:12:00 Physician Attending Progress Note
Chief Complaint: cholangitis, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  80 yo M transferred from OSH with GNR bacteremia, jaundice,
   leukocytosis, arf, hypotension c/w  biliary sepsis/ cholangitis c/b arf
   and a fib
   24 Hour Events:
 DIALYSIS CATHETER - START [**2116-7-1**] 07:14 PM
 URINE CULTURE - At [**2116-7-1**] 08:30 PM
   Head ct--pending
   L IJ  placed for hd
   reverted to NSR
   transient hypotension--> improved with decreased sedation (maps 80)
   renal us
   changed back to ACV with improvement in acidosis (met)
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-29**] 11:34 AM
   Ciprofloxacin - [**2116-6-29**] 12:10 PM
   Ampicillin - [**2116-7-2**] 08:48 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-1**] 04:00 PM
   Dextrose 50% - [**2116-7-1**] 05:13 PM
   Famotidine (Pepcid) - [**2116-7-1**] 08:09 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-2**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 70 (60 - 110) bpm
   BP: 135/51(80) {90/39(58) - 146/63(90)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 12 (9 - 14)mmHg
   Total In:
                                                                    879 mL
                                                                    562 mL
   PO:
   TF:
                                                                     51 mL
                                                                    170 mL
   IVF:
                                                                    578 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                    744 mL
                                                                     95 mL
   Urine:
                                                                    744 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    135 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 440 (390 - 440) mL
   PS : 8 cmH2O
   RR (Set): 25
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/25/134/13/-9
   Ve: 14.3 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), no rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): confused, not
   able to follow commands, Movement: Not assessed, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   163 K/uL
   123 mg/dL
   10.0 mg/dL
   13 mEq/L
   4.4 mEq/L
   122 mg/dL
   110 mEq/L
   143 mEq/L
   24.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-6-30**]  06:31 PM
                             [**2116-7-1**]  05:17 AM
                             [**2116-7-1**]  05:56 AM
                             [**2116-7-1**]  08:41 AM
                             [**2116-7-1**]  11:14 AM
                             [**2116-7-1**]  04:45 PM
                             [**2116-7-1**]  04:56 PM
                             [**2116-7-1**]  09:40 PM
                             [**2116-7-2**]  04:20 AM
                             [**2116-7-2**]  04:30 AM
   WBC
   8.9
   10.5
   9.4
   Hct
   28.5
   29.2
   24.0
   Plt
   150
   174
   163
   Cr
   9.4
   9.5
   10.0
   TCO2
   18
   17
   18
   17
   17
   14
   15
   Glucose
   66
   61
   75
   69
   65
   123
   Other labs: PT / PTT / INR:13.9/25.9/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.4 mg/dL, Mg++:2.6 mg/dL, PO4:8.1 mg/dL
   Imaging: cxr--loss of l hemid, lij, rij ok, et okj
   Microbiology: bl, urine ngtd
   sputum [**6-30**]--sparce yeast
   ECG: nsr
   Assessment and Plan
   80 yo M transferred from OSH with biliary sepsis/cholangitis c/b arf
   and a fib
   Renal failure/[**Month/Year (2) 2867**] continues to worsen, starting HD today
   Poor mental status contributing to ongoing need for mechanical
   ventilation
   Primary issues remains:
   #  ARF
 atn from sepsis, hypotension
   To start hd today given [**Month/Year (2) 2867**]
   Phos binder
   Renal us
   # biliary sepsis/cholangitis
pan [**Last Name (un) **] E coli bacteremia, lfts
   normalized
   compete course amplicillin (Day 6)
   # Resp failure/vent
   poor mental status despite adequate RSBI, unable to follow commands and
   met acidosis from [**Last Name (un) 2867**]
   once more alert, consider extubation
   continue acv to compensate for met acidosis
> adjust as needed pending
   improvement in metabolic status with hd
   # a-fib--in setting of sepsis
 now reverted to NSR
   d/c amio
   Hold on anticoagulation for now (ercp) and [**Last Name (un) 2867**]
   # anemia
 repeat hc, keep t and c
   Transfuse with hd
   # altered ms
[**First Name (Titles) 2868**] [**Last Name (Titles) 2867**], non focal exam, head ct overnight
pending
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-1**] 02:31 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2116-07-03 07:22:00 Physician Resident Progress Note
Chief Complaint: Acute cholangitis
   24 Hour Events:
 SPUTUM CULTURE - At [**2116-7-3**] 05:16 AM
   - CT head negative
   - HD with 800cc UF, problems with catheter not returning venous blood
   - Hct did not bump to 1 unit given w/ HD.  Patient HD stable, so plan
   to repeat in AM and give additional unit with HD if needed.
   - Renal USD: Two small cysts, no hydro, no stones, no focal masses.
   - Decreasing ventilation as ABG's with persistent respiratory alkalosis
   - but patient overbreathing the vent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-2**] 07:31 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-2**] 07:34 PM
   Famotidine (Pepcid) - [**2116-7-2**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 67 (63 - 77) bpm
   BP: 138/53(77) {110/42(62) - 150/61(90)} mmHg
   RR: 30 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 11 (10 - 16)mmHg
   Total In:
                                                                  1,927 mL
                                                                    470 mL
   PO:
   TF:
                                                                    657 mL
                                                                    273 mL
   IVF:
                                                                    590 mL
                                                                    116 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,185 mL
                                                                    125 mL
   Urine:
                                                                    385 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    742 mL
                                                                    345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 400 (370 - 400) mL
   PC : 5 cmH2O
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 130
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.35/34/120/17/-5
   Ve: 11.7 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loud
   murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, confused, not following commands
   Labs / Radiology
   209 K/uL
   8.0 g/dL
   162 mg/dL
   7.8 mg/dL
   17 mEq/L
   3.9 mEq/L
   99 mg/dL
   112 mEq/L
   148 mEq/L
   25.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2116-7-1**]  04:56 PM
                             [**2116-7-1**]  09:40 PM
                             [**2116-7-2**]  04:20 AM
                             [**2116-7-2**]  04:30 AM
                             [**2116-7-2**]  10:13 AM
                             [**2116-7-2**]  03:06 PM
                             [**2116-7-2**]  07:21 PM
                             [**2116-7-2**]  08:36 PM
                             [**2116-7-3**]  02:47 AM
                             [**2116-7-3**]  05:16 AM
   WBC
   9.4
   10.6
   Hct
   24.0
   23.6
   24.1
   25.2
   Plt
   163
   209
   Cr
   10.0
   7.8
   TCO2
   17
   14
   15
   21
   19
   20
   Glucose
   65
   123
   162
   Other labs: PT / PTT / INR:13.9/25.9/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:5.2 mg/dL
   Imaging: cxr stable
   Microbiology: sputum with yeast
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   .
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever)
   - started on ampicillin given sensitivities for 7 day course starting
   [**6-29**] to end [**7-5**] for [**5-15**] positive blood cx with e.coli on [**6-26**]
   - ruq shows no evidence cholecystitis or ascites.
   - LFT's normalized
    .
   #ARF [**3-14**] ATN
oliguric, UOP 15-30cc/hr, Cr still increasing minimal
   change in GFR at this point
   -  another round of HD today, 800cc UF yesterday
   - dense atn from sepsis and hypotension, lanthanum per OG tube
   - renal dose meds, urine eos negative
   - f/u renal u/s shows right kidney measures 12.6 cm. The left kidney
   measures 13.1 cm, inc echogenicity c/w renal disease
   - mantain euvolemic, needs volume removed during HD today
   - contact[**Name (NI) **] PCP [**Last Name (NamePattern4) **]. [**First Name (STitle) 2842**], b/l Cr 1.3-1.6 in [**2-18**]
   .
   # Respiratory
   - PS trial in this AM, will need to come down on RR and TV to avoid
   overshooting
   - to be dialyzed today to help clear mental status and help with volume
   removal and then extubation once mentally clears
   - RSBI>105
    .
   # Altered mental status
   - suspect related to uremia
   - CT Head negative
   - f/u urine and blood cx ngtd
   - minimal sedation for comfort
   .
   # Anemia
   - [**3-14**] renal dysfunction and blood loss during line placement yesterday
   - HCT 25 today, hold off on more blood
   .
   # Atrial fibrillation
   - In setting of infection and severe stress response, back into SR
   - No AC indicated
   - d/c amiodarone yesterday
   - f/u TTE shows mod/sev AS, LAE, LVH, EF 40%
   .
   # Aortic stenosis- mod/sev, no vegetations
   .
   # Access- hold off on pulling RIJ until HD line issues resolved
   .
   ICU Care
   Nutrition:Nutren Renal (Full) - [**2116-7-1**] 02:31 PM 20 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
    Prophylaxis:
   DVT: pneumoboots, sq heparin
   Stress ulcer: H2 blocker
   VAP: chlorhexidine, HOB elevation, Mouth care, Daily wake up, RSBI
   FULL CODE
   DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-3**] 06:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-03 10:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2116-7-3**] 05:16 AM
   HD intiiated yesterday
   adjusted vent settings to avoid over compensation for met acidosis
   renal us
   head ct without acute changes
   transfused 1 unit prbc after hd
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-2**] 07:31 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-2**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-3**] 08:55 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-3**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 69 (64 - 77) bpm
   BP: 138/53(77) {110/42(62) - 150/58(83)} mmHg
   RR: 27 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.2 kg (admission): 127 kg
   Height: 69 Inch
   CVP: 11 (10 - 16)mmHg
   Total In:
                                                                  1,927 mL
                                                                    765 mL
   PO:
   TF:
                                                                    657 mL
                                                                    425 mL
   IVF:
                                                                    590 mL
                                                                    180 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,185 mL
                                                                    165 mL
   Urine:
                                                                    385 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    742 mL
                                                                    600 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/SIMV
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 330 (330 - 400) mL
   PC : 5 cmH2O
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 130
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.35/34/120/19/-5
   Ve: 12.1 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), no rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli,, Tone: Not
   assessed, no clonus
   Labs / Radiology
   8.0 g/dL
   209 K/uL
   146 mg/dL
   8.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   104 mg/dL
   112 mEq/L
   146 mEq/L
   25.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2116-7-1**]  04:56 PM
                             [**2116-7-1**]  09:40 PM
                             [**2116-7-2**]  04:20 AM
                             [**2116-7-2**]  04:30 AM
                             [**2116-7-2**]  10:13 AM
                             [**2116-7-2**]  03:06 PM
                             [**2116-7-2**]  07:21 PM
                             [**2116-7-2**]  08:36 PM
                             [**2116-7-3**]  02:47 AM
                             [**2116-7-3**]  05:16 AM
   WBC
   9.4
   10.6
   Hct
   24.0
   23.6
   24.1
   25.2
   Plt
   163
   209
   Cr
   10.0
   7.8
   8.2
   TCO2
   17
   14
   15
   21
   19
   20
   Glucose
   65
   123
   162
   146
   Other labs: PT / PTT / INR:13.9/25.6/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:6.3 mg/dL
   Imaging: cxr--stable, L ij, r ij, ET ok, effusions, l atelec
   Microbiology: sputum--> sparce budding yeast
   Assessment and Plan
   80 yo M transferred from OSH with biliary sepsis/cholangitis c/b resp
   failure, arf and a-fib
   Renal failure/[**Year (4 digits) 2867**] continues to impact MS
now on day 2 HD
   Poor mental status contributing to ongoing need for mechanical
   ventilation
   Primary issues remains:
   #  ARF
 atn from sepsis, hypotension
   Continuing HD for clearance, [**Year (4 digits) 2867**]
   Phos binder
   Renal us
   # biliary sepsis/cholangitis
pan [**Last Name (un) **] E coli bacteremia, lfts
   normalized
   compete course ampicillin (Day 7)
   # Low grade fevers
d/c neck line
 PIVs
   on vent X 6 days at risk for VAP ---L atelectasis, minimal et
   secretions,  no wbc elevation
   Would cover empirically for vap in setting of temp spike
   # Resp failure/vent
   poor mental status, unable to follow commands and met acidosis from
   [**Last Name (un) 2867**]
   once more alert, would move toward extubation, continue to reassess
   daily
   acv to compensate for met acidosis
> can move to PS weans
   adjust as needed pending improvement in metabolic status with hd
   # a-fib--in setting of sepsis
 now reverted to NSR
   Off amio
   # anemia
renal plt dysfx, no evid active bleeding, keep t and c
   # altered ms
[**First Name (Titles) 2868**] [**Last Name (Titles) 2867**], non focal exam, head ct unremarkable
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-3**] 06:01 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
  consider d/c in next 1-2 days
   Multi Lumen - [**2116-6-28**] 09:30 AM
 pull line and place pivs, picc if
   requires more access
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2116-07-04 07:44:00 Physician Resident Progress Note
Chief Complaint: cholangitis
   24 Hour Events:
   -No new fevers overnight
   -ABG showed excellent oxygenation and ventilation on AC settings, so he
   was changed to PSV, we re-abg'ed him and he continues to lood good
   -Renal is OK with HD line functioning, so will not pull for now.
   -I left his RIJ in as he is currently requiring two drips (fentanyl and
   versed for sedation), and has only one peripheral.  Apparently he does
   not have good veins for additional peripheral lines.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-3**] 01:54 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-3**] 01:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-4**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 62 (59 - 71) bpm
   BP: 150/44(71) {111/41(61) - 184/68(108)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.2 kg (admission): 127 kg
   Height: 69 Inch
    CVP: 9 (3 - 14)mmHg
   Total In:
                                                                  1,768 mL
                                                                    494 mL
   PO:
   TF:
                                                                    960 mL
                                                                    305 mL
   IVF:
                                                                    508 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    240 mL
   Urine:
                                                                    305 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    463 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 430 (330 - 620) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.37/37/101/19/-3
   Ve: 11.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, mental status clearing
   Labs / Radiology
   210 K/uL
   7.8 g/dL
   123 mg/dL
   6.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   88 mg/dL
   110 mEq/L
   144 mEq/L
   23.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2116-7-2**]  03:06 PM
                             [**2116-7-2**]  07:21 PM
                             [**2116-7-2**]  08:36 PM
                             [**2116-7-3**]  02:47 AM
                             [**2116-7-3**]  05:16 AM
                             [**2116-7-3**]  02:57 PM
                             [**2116-7-3**]  03:15 PM
                             [**2116-7-3**]  06:50 PM
                             [**2116-7-4**]  04:01 AM
                             [**2116-7-4**]  04:30 AM
   WBC
   10.6
   12.5
   11.3
   Hct
   24.1
   25.2
   24.2
   23.8
   Plt
   [**Telephone/Fax (3) 2896**]
   Cr
   7.8
   8.2
   6.5
   6.8
   TCO2
   21
   19
   20
   23
   20
   22
   Glucose
   162
   146
   123
   123
   Other labs: PT / PTT / INR:13.9/25.6/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:6.1 mg/dL
   Imaging: cxr
   Microbiology: yeast sputum
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   .
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever)
   - started on ampicillin given sensitivities for 7 day course starting
   [**6-29**] to end [**7-5**] for [**5-15**] positive blood cx with e.coli on [**6-26**]
   - ruq shows no evidence cholecystitis or ascites.
   - LFT's normalized
   - if spikes would place on vanco/cefepime given very high risk of VAP
   given CXR and low grade fevers
    .
   #ARF [**3-14**] ATN
oliguric, UOP 15-30cc/hr, Cr still increasing minimal
   change in GFR at this point
   -  another round of HD today, 800cc UF, 1000cc yest, due HD#3 today
   - dense atn from sepsis and hypotension, lanthanum per OG tube
   - renal dose meds, urine eos negative
   - f/u renal u/s shows right kidney measures 12.6 cm. The left kidney
   measures 13.1 cm, inc echogenicity c/w renal disease
   - mantain euvolemic, needs volume removed during HD today
   - contact[**Name (NI) **] PCP [**Last Name (NamePattern4) **]. [**First Name (STitle) 2842**], b/l Cr 1.3-1.6 in [**2-18**]
   .
   # Respiratory
   - PS trial in this AM, will need to come down on RR and TV to avoid
   overshooting, tolerating well
   - to be dialyzed today to help clear mental status and help with volume
   removal and then extubation once mentally clears, improving, will trial
   on minimal PS and may be able to extubate later today ideally
   - RSBI 100
    .
   # Altered mental status
   - suspect related to uremia
   - CT Head negative
   - f/u urine and blood cx ngtd
   - minimal sedation for comfort
   .
   # Anemia
   - [**3-14**] renal dysfunction and blood loss during line placement yesterday
   - HCT 23 today, 1 unit blood with HD today
   .
   # Atrial fibrillation- resolved
   - f/u TTE shows mod/sev AS, LAE, LVH, EF 40%
   .
   # Aortic stenosis- mod/sev, no vegetations
   .
   # Access- continue  RIJ today, HD line doing fine with venous pressures
   .
   ICU Care
   Nutrition:Nutren Renal (Full) - [**2116-7-1**] 02:31 PM 20 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
     Prophylaxis:
   DVT: pneumoboots, sq heparin
   Stress ulcer: H2 blocker
   VAP: chlorhexidine, HOB elevation, Mouth care, Daily wake up, RSBI
   FULL CODE
   DISPO: ICU

2116-07-04 07:56:00 Physician Attending Progress Note
Chief Complaint:  80 yo M transferred from OSH with biliary
   sepsis/cholangitis c/b resp failure, arf and a-fib
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Renal failure/[** 2867**] continues to impact MS
now on day 2 HD
   Poor mental status contributing to ongoing need for mechanical
   ventilation
   24 Hour Events:
   No fevers. ABG good on AC. R IJ kept in place. Can
t get good
   peripherals.
   Resp distress in setting of agitation and HTN during hD today. Took off
   2.5L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-3**] 01:54 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-3**] 01:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-4**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 62 (59 - 71) bpm
   BP: 150/44(71) {111/41(61) - 184/68(108)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.2 kg (admission): 127 kg
   Height: 69 Inch
   CVP: 9 (3 - 14)mmHg
   Total In:
                                                                  1,768 mL
                                                                    509 mL
   PO:
   TF:
                                                                    960 mL
                                                                    315 mL
   IVF:
                                                                    508 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    240 mL
   Urine:
                                                                    305 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    463 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 430 (330 - 620) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.37/37/101/19/-3
   Ve: 11.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: awake, responds to verbal command intermittently
   CVSL: S1S2, AS murmer
   RS: bilat exp wheezes and end exp abd rounding
   PA: soft, BS+
   Extr: trace edema
   Labs / Radiology
   7.8 g/dL
   210 K/uL
   123 mg/dL
   6.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   88 mg/dL
   110 mEq/L
   144 mEq/L
   23.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2116-7-2**]  03:06 PM
                             [**2116-7-2**]  07:21 PM
                             [**2116-7-2**]  08:36 PM
                             [**2116-7-3**]  02:47 AM
                             [**2116-7-3**]  05:16 AM
                             [**2116-7-3**]  02:57 PM
                             [**2116-7-3**]  03:15 PM
                             [**2116-7-3**]  06:50 PM
                             [**2116-7-4**]  04:01 AM
                             [**2116-7-4**]  04:30 AM
   WBC
   10.6
   12.5
   11.3
   Hct
   24.1
   25.2
   24.2
   23.8
   Plt
   [**Telephone/Fax (3) 2896**]
   Cr
   7.8
   8.2
   6.5
   6.8
   TCO2
   21
   19
   20
   23
   20
   22
   Glucose
   162
   146
   123
   123
   Other labs: PT / PTT / INR:13.9/25.6/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:6.1 mg/dL
   Spu cx: yeast
   CXR:
   Assessment and Plan
    80 yo M transferred from OSH with biliary sepsis/cholangitis c/b resp
   failure, arf and a-fib
   Renal failure/[**Telephone/Fax (3) 2867**] continues to impact MS
now on HD
   Poor mental status contributing to ongoing need for mechanical
   ventilation, improving with HD.
   #  ARF
 atn from sepsis, hypotension
   Continuing HD for clearance, [**Telephone/Fax (3) 2867**]. MS improving with HD.
   Phos binder
   # biliary sepsis/cholangitis
pan [**Last Name (un) **] E coli bacteremia, lfts
   normalized
   compete course ampicillin (Day 7)
   Not septic.
   # Low grade fevers
d/c neck line -> PIVs/picc asap. Try to stop
   sedation. D/c A line
   on vent X 6 days at risk for VAP ---L atelectasis, minimal et
   secretions,  no wbc elevation
   Would cover empirically for vap in setting of temp spike
   # Resp failure/vent
   Currently in distress with wheezing and HTN
 maybe some flash pulm
   edema. Will check ABG increase sedation, nebs, and anti HTN to bring
   MAP into 65-70 range
   # a-fib--in setting of sepsis
 now reverted to NSR
   Off amio
   # anemia
renal plt dysfx, no evid active bleeding, keep t and c. Add 1
   unit with dialysis.
   # altered ms
[**First Name (Titles) 2868**] [**Last Name (Titles) 2867**], non focal exam, head ct unremarkable,
   improving with HD
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-3**] 11:54 PM 40 mL/hour
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2116-6-27**] 11:14 PM: d/c today
   Multi Lumen - [**2116-6-28**] 09:30 AM: try to get picc today
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT:  sq heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45

2116-07-05 07:45:00 Physician Resident Progress Note
Chief Complaint: acute cholangitis
   24 Hour Events:
   Inefficient HD given his line is poor with high venous pressures.
   Started metoprolol 12.5mg QID. KUB showed no evidence obstruction,
   started bowel regimen. Switched back to AC given acidosis on ABG, with
   great improvement, plan for SBT trial in AM, holding sedation at 4am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-5**] 04:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-4**] 08:03 AM
   Famotidine (Pepcid) - [**2116-7-4**] 09:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-5**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 70 (54 - 87) bpm
   BP: 150/51(83) {93/39(54) - 167/65(99)} mmHg
   RR: 25 (18 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131 kg (admission): 127 kg
   Height: 69 Inch
    CVP: 12 (3 - 15)mmHg
   Total In:
                                                                  1,600 mL
                                                                    245 mL
   PO:
   TF:
                                                                    791 mL
   IVF:
                                                                    600 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  3,048 mL
                                                                    275 mL
   Urine:
                                                                    548 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,448 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 520 (330 - 770) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 91%
   ABG: 7.40/36/108/20/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   RLL>LLL)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   217 K/uL
   8.2 g/dL
   108 mg/dL
   6.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   84 mg/dL
   111 mEq/L
   145 mEq/L
   24.7 %
   16.0 K/uL
        [image002.jpg]
                             [**2116-7-3**]  05:16 AM
                             [**2116-7-3**]  02:57 PM
                             [**2116-7-3**]  03:15 PM
                             [**2116-7-3**]  06:50 PM
                             [**2116-7-4**]  04:01 AM
                             [**2116-7-4**]  04:30 AM
                             [**2116-7-4**]  02:24 PM
                             [**2116-7-4**]  08:06 PM
                             [**2116-7-4**]  08:16 PM
                             [**2116-7-5**]  03:45 AM
   WBC
   10.6
   12.5
   11.3
   20.0
   16.0
   Hct
   25.2
   24.2
   23.8
   26.3
   24.7
   Plt
   [**Telephone/Fax (3) 2904**]30
   217
   Cr
   8.2
   6.5
   6.8
   6.5
   TCO2
   23
   20
   22
   23
   23
   Glucose
   146
   123
   123
   108
   Other labs: PT / PTT / INR:13.9/25.6/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Imaging: cxr
   Microbiology: yeast sparse growth
   Assessment and Plan
   80 yo M w/ prior hip surgery, BPH, CVA 1 yr transferred from OSH with
   GNR bacteremia, jaundice, Leukocytosis, arf, hypotension concerning for
   biliary sepsis/ cholangitis
   .
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever)
   - started on ampicillin given sensitivities for 7 day course starting
   [**6-29**] to end [**7-5**] for [**5-15**] positive blood cx with e.coli on [**6-26**]
   - ruq shows no evidence cholecystitis or ascites.
   - LFT's normalized
   - if spikes would place on vanco/cefepime given very high risk of VAP
   given CXR and low grade fevers
    .
   #ARF [**3-14**] ATN
oliguric, UOP 15-30cc/hr, Cr still increasing minimal
   change in GFR at this point
   -  another round of HD today, 800cc UF, 1000cc yest, due HD#4 today
   - dense atn from sepsis and hypotension, lanthanum per OG tube
   - renal dose meds, urine eos negative
   - f/u renal u/s shows right kidney measures 12.6 cm. The left kidney
   measures 13.1 cm, inc echogenicity c/w renal disease
   - mantain euvolemic, needs volume removed during HD today
   - contact[**Name (NI) **] PCP [**Last Name (NamePattern4) **]. [**First Name (STitle) 2842**], b/l Cr 1.3-1.6 in [**2-18**]
   .
   # Respiratory
   - PS trial in this AM, will need to come down on RR and TV to avoid
   overshooting, tolerating well
   - to be dialyzed today to help clear mental status and help with volume
   removal and then extubation once mentally clears, improving, will trial
   on minimal PS and may be able to extubate later today ideally
   - RSBI 76
    .
   # Altered mental status
   - suspect related to uremia, needs more HD to clear uremia
   - CT Head negative
   - f/u urine and blood cx ngtd
   - minimal sedation for comfort
   .
   # Anemia
   - [**3-14**] renal dysfunction and blood loss during line placement yesterday
   - HCT 24.7 today, hold off blood
   .
   # Atrial fibrillation- resolved
   - f/u TTE shows mod/sev AS, LAE, LVH, EF 40%
   .
   # Aortic stenosis- mod/sev, no vegetations
   .
   # Access- continue  RIJ today, HD line doing fine with venous pressures
   .
   ICU Care
   Nutrition:Nutren Renal (Full) - [**2116-7-1**] 02:31 PM 20 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   18 Gauge - [**2116-6-27**] 10:06 PM
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
     Prophylaxis:
   DVT: pneumoboots, sq heparin
   Stress ulcer: H2 blocker
   VAP: chlorhexidine, HOB elevation, Mouth care, Daily wake up, RSBI
   FULL CODE
   DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2116-6-27**] 11:14 PM
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-05 07:48:00 Physician Attending Progress Note
Chief Complaint: 80 yo M transferred from OSH with biliary
   sepsis/cholangitis c/b resp failure, arf and a-fib
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Renal failure/uremia continues to impact MS
now on day 2 HD
    Poor mental status contributing to ongoing need for mechanical
   ventilation
   24 Hour Events:
   Got inefficient HD yesterday as he has high pressures in HD line,
   waiting to change line. Got UF 2.5 kg, but poor clearance. Started on
   beta blocker for HTN yesterday. Bowel regimen increased yesterday.
   Switched back to vent due to acidosis on CPAP. Back on PS this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-5**] 04:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-4**] 08:03 AM
   Famotidine (Pepcid) - [**2116-7-4**] 09:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-5**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 70 (54 - 87) bpm
   BP: 150/51(83) {93/39(54) - 167/65(99)} mmHg
   RR: 25 (18 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131 kg (admission): 127 kg
   Height: 69 Inch
   CVP: 12 (3 - 15)mmHg
   Total In:
                                                                  1,600 mL
                                                                    246 mL
   PO:
   TF:
                                                                    791 mL
   IVF:
                                                                    600 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  3,048 mL
                                                                    275 mL
   Urine:
                                                                    548 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,448 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 520 (330 - 770) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 91%
   ABG: 7.40/36/108/20/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen: awake, responds to verbal command intermittently
   CVSL: S1S2, AS murmer
   RS: Crackles at R base, no wheezes
   PA: soft, BS+
   Extr: 1+ edema
   Labs / Radiology
   8.2 g/dL
   217 K/uL
   108 mg/dL
   6.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   84 mg/dL
   111 mEq/L
   145 mEq/L
   24.7 %
   16.0 K/uL
        [image002.jpg]
                             [**2116-7-3**]  05:16 AM
                             [**2116-7-3**]  02:57 PM
                             [**2116-7-3**]  03:15 PM
                             [**2116-7-3**]  06:50 PM
                             [**2116-7-4**]  04:01 AM
                             [**2116-7-4**]  04:30 AM
                             [**2116-7-4**]  02:24 PM
                             [**2116-7-4**]  08:06 PM
                             [**2116-7-4**]  08:16 PM
                             [**2116-7-5**]  03:45 AM
   WBC
   10.6
   12.5
   11.3
   20.0
   16.0
   Hct
   25.2
   24.2
   23.8
   26.3
   24.7
   Plt
   [**Telephone/Fax (3) 2904**]30
   217
   Cr
   8.2
   6.5
   6.8
   6.5
   TCO2
   23
   20
   22
   23
   23
   Glucose
   146
   123
   123
   108
   Other labs: PT / PTT / INR:13.9/25.6/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:11.0 %,
   Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   80 yo M transferred from OSH with biliary sepsis/cholangitis c/b resp
   failure, arf and a-fib
   Renal failure/uremia continues to impact MS
now on HD
   Poor mental status contributing to ongoing need for mechanical
   ventilation, improving with HD.
   # Leukocytosis slightly improved since yesterday, low grade fever
   intermittently:
   Concerned about line infection vs VAP.
   Only on ampicillin for Ecoli bacteremia
   Micro: yeast in sputum, urine and blood neg
   Check daily sputums.
   CXR w/o infiltrate.
   Low threshold to start VAP coverage.
   D/c A line today.
   Picc order in place to help d/c IJ.
   Check cdiff, check UA today
   #  ARF
 atn from sepsis, hypotension
   Continuing HD for clearance, but needs HD line changed for adequate HD.
   Uremia slowly improving, oliguric.
   On phos binder
   # Acute resp failure:
   Mechanics great, but still uremic causing altered mental status. Seems
   to be improving off continuous sedation
   Would hesitate to extubate in this setting.
   Wean PS pending ABG this am
   Intermittent sedation only with prn boluses, keep off drips
   # biliary sepsis/cholangitis
pan [**Last Name (un) **] E coli bacteremia, lfts
   normalized
   compete course ampicillin (Day 7 today). Not septic.
   # Constipation:
   Bowel regimen. Tolerating feeds ok.
   # HTN
   On beta blocker, HR 60, watch and add meds if needed
   ICU Care
   Nutrition: tolerating feeds
   Glycemic Control:  good on riss
   Lines:
   Arterial Line - [**2116-6-27**] 11:14 PM
 d/c today
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT: sq heparin, boots
   Stress ulcer: h2 blocker
   VAP: ppx, trying to extubate
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:

2116-07-06 07:13:00 Physician Resident Progress Note
Chief Complaint: 80M transferred with cholangitis, s/p ERCP continues
   to require ventilatory support and in ARF
   24 Hour Events:
 ARTERIAL LINE - STOP [**2116-7-5**] 11:49 AM
   - Renal: Unable to change line over wire as could not thread wire, will
   plan for CVVH over that line -> will need to be resited if unable to
   tolerate CVVH.
   - Using bolus sedation with good effect, but then when starting CVVH
   overnight was coughing and limiting CVVH access pressures so had to
   resume gtt's for sedation.  Will plan to d/c at 7am so as to address
   extubation.
   - Ua Dirty but given oliguria and lack of fevers opted not to treat at
   this time.
   - C. Diff sent
   - Weaned pressure support to 10.
   - d/c'd A-line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-5**] 04:06 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 40 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-5**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-5**] 09:00 PM
   Midazolam (Versed) - [**2116-7-6**] 01:00 AM
   Fentanyl - [**2116-7-6**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-6**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 59 (59 - 72) bpm
   BP: 145/48(73) {114/42(59) - 166/60(85)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 131 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                    972 mL
                                                                    885 mL
   PO:
             TF:
                                                                    254 mL
                                                                    235 mL
   IVF:
                                                                    509 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                  1,848 mL
   Urine:
                                                                    975 mL
                                                                    316 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -3 mL
                                                                   -963 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (430 - 570) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   SpO2: 100%
   ABG: 7.42/33/92.[**Numeric Identifier 1176**]/19/-1
   Ve: 11.1 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   8.6 g/dL
   136 mg/dL
   5.6 mg/dL
   19 mEq/L
   4.1 mEq/L
   79 mg/dL
   111 mEq/L
   146 mEq/L
   26.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2116-7-3**]  06:50 PM
                             [**2116-7-4**]  04:01 AM
                             [**2116-7-4**]  04:30 AM
                             [**2116-7-4**]  02:24 PM
                             [**2116-7-4**]  08:06 PM
                             [**2116-7-4**]  08:16 PM
                             [**2116-7-5**]  03:45 AM
                             [**2116-7-5**]  10:06 AM
                             [**2116-7-5**]  09:50 PM
                             [**2116-7-6**]  04:57 AM
   WBC
   11.3
   20.0
   16.0
   15.0
   Hct
   23.8
   26.3
   24.7
   26.8
   Plt
   [**Telephone/Fax (3) 2911**]43
   Cr
   6.8
   6.5
   6.9
   5.6
   TCO2
   20
   22
   23
   23
   22
   Glucose
   123
   108
   105
   136
   Other labs: PT / PTT / INR:14.6/27.4/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Microbiology: Stool: cdiff negative x1
   Sputum: yeast
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP continues to require
   ventilatory support and in ARF
   .
   # ARF: Secondary to ATN, oliguric with UOP steady at 15-30cc/hr.
   Unable to change line over wire as could not thread wire, will plan for
   CVVH over that line -> will need to be resited if unable to tolerate
   CVVH.
   -continue CVVH, 1L negative
   -continue phosphate binder
   .
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
    .
    # Respiratory: tolerating PS on [**11-15**], hemodynamically stable, RISBI 60
   -SBT when uremia improves
   -continue to wean PS as tolerated with frequent ABGs
    .
   # Altered mental status: likely secondary to uremia, infectious w/u and
   head CT negative
   -continue CVVH
   -weaning sedation as toleaated
   .
   # Anemia
   -HCT stable, continue to monitor daily
   .
   # Aortic stenosis- mod/sev, no vegetations
   .
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-6**] 05:56 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2116-07-06 07:50:00 Physician Attending Progress Note
Chief Complaint: 80 yo M transferred from OSH with biliary
   sepsis/cholangitis c/b resp failure, arf and a-fib
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Renal failure/uremia continues to impact MS
now on day 2 HD
    Poor mental status contributing to ongoing need for mechanical
   ventilation
   24 Hour Events:
 ARTERIAL LINE - STOP [**2116-7-5**] 11:49 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-5**] 04:06 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 40 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-5**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-5**] 09:00 PM
   Midazolam (Versed) - [**2116-7-6**] 01:00 AM
   Fentanyl - [**2116-7-6**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-6**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 59 (59 - 72) bpm
   BP: 145/48(73) {114/42(59) - 166/60(85)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 131 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                    972 mL
                                                                    976 mL
   PO:
             TF:
                                                                    254 mL
                                                                    268 mL
   IVF:
                                                                    509 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                  2,125 mL
   Urine:
                                                                    975 mL
                                                                    316 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -3 mL
                                                                 -1,149 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (430 - 570) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   SpO2: 100%
   ABG: 7.42/33/92.[**Numeric Identifier 1176**]/19/-1
   Ve: 11.1 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   243 K/uL
   136 mg/dL
   5.6 mg/dL
   19 mEq/L
   4.1 mEq/L
   79 mg/dL
   111 mEq/L
   146 mEq/L
   26.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2116-7-3**]  06:50 PM
                             [**2116-7-4**]  04:01 AM
                             [**2116-7-4**]  04:30 AM
                             [**2116-7-4**]  02:24 PM
                             [**2116-7-4**]  08:06 PM
                             [**2116-7-4**]  08:16 PM
                             [**2116-7-5**]  03:45 AM
                             [**2116-7-5**]  10:06 AM
                             [**2116-7-5**]  09:50 PM
                             [**2116-7-6**]  04:57 AM
   WBC
   11.3
   20.0
   16.0
   15.0
   Hct
   23.8
   26.3
   24.7
   26.8
   Plt
   [**Telephone/Fax (3) 2911**]43
   Cr
   6.8
   6.5
   6.9
   5.6
   TCO2
   20
   22
   23
   23
   22
   Glucose
   123
   108
   105
   136
   Other labs: PT / PTT / INR:14.6/27.4/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
    Physical Examination
   Gen: awake, responds to verbal command intermittently
   CVSL: S1S2, AS murmer
   RS: Crackles at R base, no wheezes
   PA: soft, BS+
   Extr: 1+ edema
   Assessment and Plan
   80 yo M transferred from OSH with biliary sepsis/cholangitis c/b resp
   failure, arf and a-fib
   Renal failure/uremia continues to impact MS
now on HD
   Poor mental status contributing to ongoing need for mechanical
   ventilation, improving with HD.
   # Leukocytosis slightly improved since yesterday, low grade fever
   intermittently:
   Concerned about line infection vs VAP.
   Only on ampicillin for Ecoli bacteremia
   Micro: yeast in sputum, urine and blood neg
   Check daily sputums.
   CXR w/o infiltrate.
   Low threshold to start VAP coverage.
   D/c A line today.
   Picc order in place to help d/c IJ.
   Check cdiff, check UA today
   #  ARF
 atn from sepsis, hypotension
   Continuing HD for clearance, but needs HD line changed for adequate HD.
   Uremia slowly improving, oliguric.
   On phos binder
   # Acute resp failure:
   Mechanics great, but still uremic causing altered mental status. Seems
   to be improving off continuous sedation
   Would hesitate to extubate in this setting.
   Wean PS pending ABG this am
   Intermittent sedation only with prn boluses, keep off drips
   # biliary sepsis/cholangitis
pan [**Last Name (un) **] E coli bacteremia, lfts
   normalized
   compete course ampicillin (Day 7 today). Not septic.
   # Constipation:
   Bowel regimen. Tolerating feeds ok.
   # HTN
   On beta blocker, HR 60, watch and add meds if needed
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-6**] 05:56 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-6-28**] 09:30 AM
   Dialysis Catheter - [**2116-7-1**] 07:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2116-07-07 07:46:00 Physician Resident Progress Note
Chief Complaint: Ecoli bacteremia
   24 Hour Events:
   - Renal fellow attempted to re-site HD line, but it was not functional,
   so the patient did not get HD yesterday.  Will get an urgent CVL by IR
   guidance today
   - Spiked a fever to 101.8, we covered for VAP with vanc and cefepime,
   and pulled the left IJ
   - Did not tolerate either weaning his sedation or vent settings--> back
   on versed/fentanyl gtt's and AC
   - Now with diarrhea, c diff x 1 sent
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-5**] 04:06 PM
   Cefipime - [**2116-7-6**] 06:30 PM
   Vancomycin - [**2116-7-6**] 07:29 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-7-6**] 08:12 PM
   Famotidine (Pepcid) - [**2116-7-6**] 08:19 PM
   Midazolam (Versed) - [**2116-7-7**] 06:04 AM
   Fentanyl - [**2116-7-7**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-7**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.1
C (100.5
   HR: 64 (60 - 88) bpm
   BP: 94/41(53) {94/33(53) - 169/77(97)} mmHg
   RR: 25 (10 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  2,424 mL
                                                                    557 mL
   PO:
             TF:
                                                                    915 mL
                                                                    294 mL
   IVF:
                                                                  1,269 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                    222 mL
   Urine:
                                                                    971 mL
                                                                    222 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -656 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 540 (540 - 540) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: ///22/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Diaphoretic
   Eyes / Conjunctiva: constricted 1 mm pupils
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (Murmur: Systolic), cres-decresc systolic
   murmur throughout precordium that somewhat limits auscultation of s2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly with rare basilar crackles), thick yellow secretions
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, sedated, opens eyes, but not purposefully, does not
   follow commands
   Labs / Radiology
   232 K/uL
   7.9 g/dL
   127 mg/dL
   5.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   85 mg/dL
   111 mEq/L
   145 mEq/L
   24.6 %
   14.3 K/uL
        [image002.jpg]
                             [**2116-7-4**]  04:30 AM
                             [**2116-7-4**]  02:24 PM
                             [**2116-7-4**]  08:06 PM
                             [**2116-7-4**]  08:16 PM
                             [**2116-7-5**]  03:45 AM
                             [**2116-7-5**]  10:06 AM
                             [**2116-7-5**]  09:50 PM
                             [**2116-7-6**]  04:57 AM
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
   WBC
   20.0
   16.0
   15.0
   14.3
   Hct
   26.3
   24.7
   26.8
   24.6
   Plt
   230
   217
   243
   232
   Cr
   6.5
   6.9
   5.6
   5.4
   5.6
   TCO2
   22
   23
   23
   22
   Glucose
   108
   105
   136
   137
   127
   Other labs: PT / PTT / INR:14.6/28.1/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Imaging: CXR: portable and of poor quality.  Compared to prior has
   increased opacification of the lower lobes.  ET tube in place,
   difficult to see tip of CVL.
   Microbiology: [**2116-7-7**] 4:43 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2116-7-7**]):  >25 PMNs and <10 epithelial cells/100X
   field. 2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.  IN PAIRS AND
   CLUSTERS.
    2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and e coli bacteremia now
   with ARF-- ATN on dialysis likely due to sepsis and hypotension with
   increasing ventilatory requirement and likely VAP.
   # ARF:  Persists in ATN, but does have normal urine output (971 in last
   24 hours-- 40cc/hr).  Difficulty with dialysis secondary to inability
   to get high flows off of central lines.  Now s/p line change on [**7-6**]
   but persistent difficulty dialyzing.  Electrolytes currently stable,
   but needs additional access.
   -Went  to IR today for fluro guided HD line, will attempt subclavian
   line today as femoral not ideal given diarrhea, urine leakage
   -continue phosphate binder
   -f/u renal recs
   - [**Hospital1 **] lytes until dialysis
   # VAP/fever: patient with temperature, increased secretions and
   worsening cxr.  Vancomycin and cefepime started for 8 day course of
   ventilator associated pneumonia.  GPC in sputum possible contaminate
   versus staph aureus.   Though VAP likely cause for fever, left IJ was
   also removed as possible line infection.  Will follow up blood and tip
   cultures.
   - follow up sputum, blood cultures
   - continue abx for a total of 8 days.
   - contact precautions until cultures return
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
    # Respiratory: Back on assist control.  Increased vent requirement
   likely due to VAP.
   - continue AC for now until secretions improve
   - checking regular VBGs
   # Altered mental status: likely secondary to uremia and infection, head
   CT negative.  Currently on sedation.  Will have AM wakeups to limit
   sedation.
   -continue HD and antibiotics
   -weaning sedation as tolerated
   # Positive U/A: culture as yet negative.  Currently on broad spectrum
   antibiotics.  Will follow up culture.  Change Foley.
   # Anemia
   -HCT stable, continue to monitor daily
   # Aortic stenosis- mod/sev, no vegetations, continue heart rate control
   with metoprolol.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-7**] 04:11 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   Comments: to have new lines placed in IR today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2116-07-08 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2116-7-7**] 02:22 PM
   - HD line placed in IR
   - Dialyzed without difficulty, 1500 removed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2116-7-5**] 04:06 PM
   Vancomycin - [**2116-7-6**] 07:29 PM
   Cefipime - [**2116-7-7**] 06:30 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-7**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-7**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-8**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 60 (57 - 65) bpm
   BP: 112/50(66) {90/42(55) - 156/70(86)} mmHg
   RR: 19 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,475 mL
                                                                    296 mL
   PO:
             TF:
                                                                    675 mL
                                                                    146 mL
   IVF:
                                                                    485 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    185 mL
   Urine:
                                                                    850 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -875 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.43/43/77/25/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Absent), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   192 K/uL
   7.6 g/dL
   106 mg/dL
   4.1 mg/dL
   25 mEq/L
   4.0 mEq/L
   54 mg/dL
   110 mEq/L
   144 mEq/L
   23.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2116-7-4**]  08:06 PM
                             [**2116-7-4**]  08:16 PM
                             [**2116-7-5**]  03:45 AM
                             [**2116-7-5**]  10:06 AM
                             [**2116-7-5**]  09:50 PM
                             [**2116-7-6**]  04:57 AM
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
   WBC
   20.0
   16.0
   15.0
   14.3
   10.1
   Hct
   26.3
   24.7
   26.8
   24.6
   23.7
   Plt
   230
   217
   243
   232
   192
   Cr
   6.5
   6.9
   5.6
   5.4
   5.6
   4.1
   TCO2
   23
   22
   29
   Glucose
   108
   105
   136
   137
   127
   106
   Other labs: PT / PTT / INR:14.6/28.1/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and e coli bacteremia now
   with ARF-- ATN on dialysis likely due to sepsis and hypotension with
   increasing ventilatory requirement and likely VAP.
   # ARF:  Persists in ATN, but does have normal urine output. New
   dialysis line placed by IR. Underwent dialysis. Removed 1.5 liters.
   Creatinine down from 5.6 to 4.1 today.
   -continue phosphate binder
   -f/u renal recs
   - Continue to monitor [**Hospital1 **] lytes
   # VAP:  Vancomycin and cefepime started for 8 day course of ventilator
   associated pneumonia. Currently afebrile with resolving leukocytosis.
   GPC in sputum possible contaminate versus staph aureus.   Though VAP
   likely cause, left IJ was also removed as possible line infection.
   Will follow up blood and tip cultures.
   - follow up sputum, blood cultures
   - continue abx for a total of 8 days.
   - contact precautions until cultures return
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
    # Respiratory: Difficulty in weaning the vent secondary to pulmonary
   edema, VAP and altered mental status [**3-14**] uremia. Back on assist
   control.
   - continue AC for now until secretions improves
   - checking regular VBGs
   - continue HD for fluid removal and to resolve uremia
   # Altered mental status: likely secondary to uremia and infection, head
   CT negative.  Currently on sedation.
   - Will have AM wakeups to limit sedation.
   -continue HD and antibiotics
   -weaning sedation as tolerated
   # Positive U/A: culture as yet negative.  Currently on broad spectrum
   antibiotics.  Will follow up culture.  Change Foley.
   # Anemia
   -HCT stable, continue to monitor daily
   # Aortic stenosis- mod/sev, no vegetations, continue rate control with
   metoprolol.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-7**] 10:07 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-7**] 02:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-09 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2116-7-8**] 03:00 PM
 PICC LINE - START [**2116-7-8**] 04:35 PM
   PICC is actually R basilic
   Pulled nonfunctioning R IJ line
   IR placed PICC line
   Given 1 dose of Vanco
   Underwent HD: removed 2.9L
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-8**] 04:28 PM
   Cefipime - [**2116-7-8**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-8**] 08:00 PM
   Midazolam (Versed) - [**2116-7-9**] 02:20 AM
   Fentanyl - [**2116-7-9**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-9**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 62 (60 - 69) bpm
   BP: 100/41(54) {90/37(51) - 180/65(94)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,204 mL
                                                                    560 mL
   PO:
             TF:
                                                                     60 mL
                                                                    270 mL
   IVF:
                                                                    804 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  3,695 mL
                                                                    193 mL
   Urine:
                                                                    695 mL
                                                                    193 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,491 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   PS : 12. cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5. cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 20. cmH2O
   Plateau: 17. cmH2O
   SpO2: 94%
   ABG: ///24/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Absent), (Murmur: Systolic), throughout precordium
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Distended, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   183 K/uL
   7.4 g/dL
   123 mg/dL
   4.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   66 mg/dL
   112 mEq/L
   147 mEq/L
   23.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2116-7-5**]  03:45 AM
                             [**2116-7-5**]  10:06 AM
                             [**2116-7-5**]  09:50 PM
                             [**2116-7-6**]  04:57 AM
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
   WBC
   16.0
   15.0
   14.3
   10.1
   11.1
   Hct
   24.7
   26.8
   24.6
   23.7
   23.5
   Plt
   [**Telephone/Fax (3) 2942**]92
   183
   Cr
   6.5
   6.9
   5.6
   5.4
   5.6
   4.1
   4.4
   4.6
   TCO2
   22
   29
   Glucose
   108
   105
   136
   137
   127
   106
   101
   123
   Other labs: PT / PTT / INR:14.7/29.8/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and E. coli bacteremia now
   with ARF-- ATN on dialysis likely due to sepsis and hypotension with
   increasing ventilatory requirement and likely VAP.
   # ARF:  Persists in ATN, but does have normal urine output. Underwent
   second session of dialysis. Removed 2.9 liters. Creatinine 4.6 today.
   Continue fluid removal with HD as continues to be 7.5 L vollume up for
   length of stay.
   -continue phosphate binder
   -f/u renal recs
   - Continue to monitor [**Hospital1 **] lytes
   # VAP:  Vancomycin and cefepime started for 8 day course of ventilator
   associated pneumonia. Currently afebrile with resolving leukocytosis.
   GPC in sputum possible contaminate versus staph aureus. Cultures still
   pending.   Though VAP likely cause, left IJ was also removed as
   possible line infection.  Will follow up blood and tip cultures.
   - follow up sputum, blood cultures
   - continue abx for a total of 8 days.
   - contact precautions until cultures return
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
    # Respiratory: Difficulty in weaning the vent secondary to pulmonary
   edema, VAP and altered mental status [**3-14**] uremia. Back on assist
   control.
   - continue AC for now until secretions improves
   - checking regular VBGs
   - continue HD for fluid removal and to resolve uremia
   - will attempt Spontaneous breathing trail
   # Altered mental status: likely secondary to uremia and infection, head
   CT negative.  Currently on sedation.
   - Will have AM wakeups to limit sedation.
   -continue HD and antibiotics
   -weaning sedation as tolerated
   # Positive U/A: culture as yet negative.  Currently on broad spectrum
   antibiotics.  Will follow up culture.  Change Foley.
   # Anemia
   -HCT stable, continue to monitor daily
   # Aortic stenosis- mod/sev, no vegetations, continue rate control with
   metoprolol.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-8**] 10:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-10 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vanc approved by ID
   sputum culture returns as OP flora.  Ordered repeat sputum culture
   1uPRBC with dialysis
   per renal increase Lanthanum to 1000mg po tid
   vanc level in a.m.
   if Na (hypernatremic) not improved w/ HD per renal patient will need
   free H2O boluses per NGT
   per nursing patient seemed to have increased work of breathing, PS
   increased from 10 to 12 until 4 a.m. to provide some rest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-9**] 01:00 PM
   Cefipime - [**2116-7-9**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-9**] 08:00 PM
   Midazolam (Versed) - [**2116-7-9**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 73 (61 - 73) bpm
   BP: 159/58(81) {102/41(57) - 172/72(94)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  2,268 mL
                                                                    478 mL
   PO:
             TF:
                                                                    792 mL
                                                                    287 mL
   IVF:
                                                                    771 mL
                                                                     72 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,116 mL
                                                                     82 mL
   Urine:
                                                                    516 mL
                                                                     82 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    152 mL
                                                                    396 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (420 - 580) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   SpO2: 98%
   ABG: ///30/
   Ve: 11.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Absent), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   171 K/uL
   8.3 g/dL
   135 mg/dL
   4.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   54 mg/dL
   106 mEq/L
   147 mEq/L
   24.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2116-7-5**]  10:06 AM
                             [**2116-7-5**]  09:50 PM
                             [**2116-7-6**]  04:57 AM
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
   WBC
   15.0
   14.3
   10.1
   11.1
   11.1
   Hct
   26.8
   24.6
   23.7
   23.5
   24.9
   Plt
   243
   232
   192
   183
   171
   Cr
   6.9
   5.6
   5.4
   5.6
   4.1
   4.4
   4.6
   4.0
   TCO2
   22
   29
   Glucose
   105
   136
   137
   127
   106
   101
   123
   135
   Other labs: PT / PTT / INR:14.2/25.8/1.2, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and E. coli bacteremia now
   with ARF-- ATN on dialysis likely due to sepsis and hypotension with
   increasing ventilatory requirement and likely VAP.
   # ARF:  Persists in ATN. Underwent  session of dialysis yesterday. Only
   able to remove 1.5L as became transiently hypotensive requiring fluid
   boluses.. Continue fluid removal with HD as continues to be 7.5 L
   vollume up for length of stay.
   -f/u renal recs- hold of on ultrafiltration today as appears
   intravascularly dry
   -continue phosphate binder
   - Lytes daily
   # VAP/ ID:  Vancomycin and cefepime started for 8 day course of
   ventilator associated pneumonia. Currently afebrile with resolving
   leukocytosis.  GPC in sputum possible contaminate versus staph aureus.
   Cultures still pending.   D5 of abx today.
   - follow up sputum, blood cultures
   - continue abx for a total of 8 days.
   - contact precautions until cultures return
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
    # Respiratory: Difficulty in weaning the vent secondary to pulmonary
   edema, VAP and altered mental status [**3-14**] uremia.  Currently on pressure
   support. Attempt SBT this AM. HD limited by hypotension yesterday.
   - continue HD for fluid removal and to resolve uremia
   - wean sedation
   - wean pressure support
   - will attempt another Spontaneous breathing trail tomorrow
   # Altered mental status: likely secondary to uremia and infection, head
   CT negative.  Currently on sedation.
   - Continue AM wakeups to limit sedation.
    -continue HD and antibiotics
    -weaning sedation as tolerated
   # Positive U/A:  Ucx grew 10-100,000 yeast
   - change foley
   # Anemia: insufficient bump in HCT to transfusion yesterday.
    - ck iron studies
   - HCT stable, continue to monitor daily
   - Transfuse PRN
    # Aortic stenosis- mod/sev, no vegetations, continue rate control with
   metoprolol.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-10**] 02:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-11 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started 80IV lasix X1 with little effect
   held on free water bolus
   Renal did not want further HD as pt was hypotensive yest during session
   Pt with increasing RSBI - 90s this am, will likely need HD prior to
   attemp at extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-9**] 01:00 PM
   Cefipime - [**2116-7-10**] 07:59 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2116-7-10**] 03:31 PM
   Famotidine (Pepcid) - [**2116-7-10**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 80 (63 - 80) bpm
   BP: 155/60(83) {106/48(66) - 172/86(96)} mmHg
   RR: 22 (15 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,537 mL
                                                                    401 mL
   PO:
             TF:
                                                                    818 mL
                                                                    290 mL
   IVF:
                                                                    300 mL
                                                                      0 mL
   Blood products:
   Total out:
                                                                    432 mL
                                                                    665 mL
   Urine:
                                                                    432 mL
                                                                    595 mL
   NG:
   Stool:
   70 mL
   Drains:
   Balance:
                                                                  1,105 mL
                                                                   -264 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (340 - 620) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 14 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Absent), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   168 K/uL
   8.5 g/dL
   131 mg/dL
   4.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   77 mg/dL
   105 mEq/L
   147 mEq/L
   27.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-7-6**]  04:57 AM
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
   WBC
   15.0
   14.3
   10.1
   11.1
   11.1
   9.4
   Hct
   26.8
   24.6
   23.7
   23.5
   24.9
   24.8
   27.3
   Plt
   243
   232
   192
   183
   171
   168
   Cr
   5.6
   5.4
   5.6
   4.1
   4.4
   4.6
   4.0
   4.5
   4.8
   TCO2
   29
   Glucose
   136
   137
   127
   106
   101
   123
   135
   146
   131
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and E. coli bacteremia now
   with ARF-- ATN on dialysis likely due to sepsis and hypotension with
   increasing ventilatory requirement and likely VAP.
   # ARF:  Persists in ATN. Underwent  session of dialysis yesterday. Only
   able to remove 1.5L as became transiently hypotensive requiring fluid
   boluses.. Continue fluid removal with HD as continues to be 7.5 L
   vollume up for length of stay.
   -f/u renal recs- hold of on ultrafiltration today as appears
   intravascularly dry
   -continue phosphate binder
   - Lytes daily
   # VAP/ ID:  Vancomycin and cefepime started for 8 day course of
   ventilator associated pneumonia. Currently afebrile with resolving
   leukocytosis.  GPC in sputum possible contaminate versus staph aureus.
   Cultures still pending.   D5 of abx today.
   - follow up sputum, blood cultures
   - continue abx for a total of 8 days.
   - contact precautions until cultures return
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
    # Respiratory: Difficulty in weaning the vent secondary to pulmonary
   edema, VAP and altered mental status [**3-14**] uremia.  Currently on pressure
   support. Attempt SBT this AM. HD limited by hypotension yesterday.
   - continue HD for fluid removal and to resolve uremia
   - wean sedation
   - wean pressure support
   - will attempt another Spontaneous breathing trail tomorrow
   # Altered mental status: likely secondary to uremia and infection, head
   CT negative.  Currently on sedation.
   - Continue AM wakeups to limit sedation.
    -continue HD and antibiotics
    -weaning sedation as tolerated
   # Positive U/A:  Ucx grew 10-100,000 yeast
   - change foley
   # Anemia: insufficient bump in HCT to transfusion yesterday.
    - ck iron studies
   - HCT stable, continue to monitor daily
   - Transfuse PRN
    # Aortic stenosis- mod/sev, no vegetations, continue rate control with
   metoprolol.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-11**] 06:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-11 12:10:00 Physician Attending Progress Note
Chief Complaint: cholangitis, sepsis, respiratory failure, acute renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasix without effect
   Dialysis held yesterday
   History obtained from ICU team
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-9**] 01:00 PM
   Cefipime - [**2116-7-10**] 07:59 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2116-7-10**] 03:31 PM
   Famotidine (Pepcid) - [**2116-7-10**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-10**] 08:00 PM
   Other medications:
   SQH, H2B, SQI, lopressor, lactulose, colace, cefepime, vanco, nystatin,
   lanthanum
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-11**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 70 (63 - 80) bpm
   BP: 138/58(77) {106/49(66) - 172/86(97)} mmHg
   RR: 23 (11 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,537 mL
                                                                    587 mL
   PO:
             TF:
                                                                    818 mL
                                                                    476 mL
   IVF:
                                                                    300 mL
                                                                      0 mL
   Blood products:
   Total out:
                                                                    432 mL
                                                                    665 mL
   Urine:
                                                                    432 mL
                                                                    595 mL
   NG:
   Stool:
   70 mL
   Drains:
   Balance:
                                                                  1,105 mL
                                                                    -78 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (410 - 620) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   RSBI: 90
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loud
   systolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace, wrinkles due to diuresis
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   168 K/uL
   131 mg/dL
   4.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   77 mg/dL
   105 mEq/L
   147 mEq/L
   27.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-7-6**]  04:57 AM
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
   WBC
   15.0
   14.3
   10.1
   11.1
   11.1
   9.4
   Hct
   26.8
   24.6
   23.7
   23.5
   24.9
   24.8
   27.3
   Plt
   243
   232
   192
   183
   171
   168
   Cr
   5.6
   5.4
   5.6
   4.1
   4.4
   4.6
   4.0
   4.5
   4.8
   TCO2
   29
   Glucose
   136
   137
   127
   106
   101
   123
   135
   146
   131
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80-year-old man with
          Respiratory failure (acute)
          Cholangitis
 E. coli bacteremia
          ATN
 acute renal failure
 dialysis
          Probable ventilator-associated pneumonia
          Borderline hypotension
          Recent atrial fibrillation
          Volume overload
 improving
          Severe aortic stenosis
   He is presently tolerating dialysis (set for -4.6 kg!).  Although his
   RSBI is climbing it is still reasonable, and his mental status has by
   report improved.  After dialysis finishes, we will attempt SBT.  If
   successful, would give a trial of extubation today.  Will have rate
   control agents readily available, since his aortic stenosis may cause
   significant problems with any tachycardia.
   Other issues as detailed in the ICU team
s note from today.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-7-11**] 06:15 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2116-07-12 05:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vanc level 15.2
   -4L with HD
   Will do SBT in AM with plans to extubate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-11**] 01:45 PM
   Cefipime - [**2116-7-11**] 01:54 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2116-7-11**] 04:30 PM
   Famotidine (Pepcid) - [**2116-7-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-11**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-12**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 62 (62 - 80) bpm
   BP: 102/46(61) {102/46(61) - 161/78(97)} mmHg
   RR: 23 (11 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 127 kg
   Height: 69 Inch
                  Total In:
                                                                  1,001 mL
                                                                    310 mL
   PO:
                  TF:
                                                                    510 mL
                                                                    140 mL
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  4,887 mL
                                                                     39 mL
   Urine:
                                                                    817 mL
                                                                     39 mL
   NG:
   Stool:
                                                                     70 mL
   Drains:
   Balance:
                                                                 -3,886 mL
                                                                    271 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (410 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   RSBI: 97
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Absent), (Murmur: Systolic), iii/vi throughout
   precordium
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   168 K/uL
   8.5 g/dL
   131 mg/dL
   4.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   77 mg/dL
   105 mEq/L
   147 mEq/L
   27.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-7-6**]  04:57 AM
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
   WBC
   15.0
   14.3
   10.1
   11.1
   11.1
   9.4
   Hct
   26.8
   24.6
   23.7
   23.5
   24.9
   24.8
   27.3
   Plt
   243
   232
   192
   183
   171
   168
   Cr
   5.6
   5.4
   5.6
   4.1
   4.4
   4.6
   4.0
   4.5
   4.8
   TCO2
   29
   Glucose
   136
   137
   127
   106
   101
   123
   135
   146
   131
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and E. coli bacteremia now
   with ARF [**3-14**] ATN on dialysis likely due to sepsis and hypotension with
   VAP.
   # ARF:  Persists in ATN. Continue fluid removal with HD  today as
   continues to be 7.5 L vollume up for length of stay.
   -f/u renal recs
   -continue phosphate binder
   - Lytes daily
   # VAP/ ID:  Vancomycin and cefepime started for 8 day course Currently
   afebrile with resolving leukocytosis.  GPC in sputum e contaminate.
   D6 of abx today.
   - continue abx for a total of 8 days.
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
   # Respiratory: Difficulty in weaning the vent secondary to pulmonary
   edema, VAP. Pt awake and alert and responding appropriately therefore
   mental status will not hinder extubation.  Continues on pressure
   support. RSBI increased since yesterday, but tolerated 3 hr SBT
   yesteray. Complete session of dialysis and attempt another SBT.
   - continue HD for fluid removal
   - wean sedation
   - will attempt another Spontaneous breathing trial
   # Altered mental status: improved; will reassess after extubation.
    -continue HD and antibiotics
    -weaning sedation as tolerated
   # Anemia: iron studies consistent with iron deficiency and ACD
   - HCT stable, continue to monitor daily
   - Transfuse PRN
   - Iron transfusion with dialysis
    # Aortic stenosis- mod/sev, no vegetations, continue rate control with
   metoprolol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-12 09:53:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, E. coli bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated HD for ~4.5kg
   History obtained from ICU team
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-11**] 01:45 PM
   Cefipime - [**2116-7-11**] 01:54 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2116-7-11**] 04:30 PM
   Famotidine (Pepcid) - [**2116-7-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-12**] 06:00 AM
   Other medications:
   SQH, CHG, H2B, SQI, colace, lopressor, cefepime, vanco, nystatin,
   lanthanum
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-12**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 61 (61 - 79) bpm
   BP: 105/49(62) {97/45(57) - 160/70(85)} mmHg
   RR: 29 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,241 mL
                                                                    466 mL
   PO:
             TF:
                                                                    510 mL
                                                                    140 mL
   IVF:
                                                                    540 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  4,887 mL
                                                                     44 mL
   Urine:
                                                                    817 mL
                                                                     44 mL
   NG:
   Stool:
                                                                     70 mL
   Drains:
   Balance:
                                                                 -3,646 mL
                                                                    422 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   Vt (Spontaneous): 360 (360 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 0 cmH2O
   RSBI: 97
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: ///29/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   206 K/uL
   106 mg/dL
   4.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   64 mg/dL
   111 mEq/L
   151 mEq/L
   25.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2116-7-6**]  10:24 PM
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
                             [**2116-7-12**]  05:19 AM
   WBC
   14.3
   10.1
   11.1
   11.1
   9.4
   11.9
   Hct
   24.6
   23.7
   23.5
   24.9
   24.8
   27.3
   25.0
   Plt
   232
   192
   183
   171
   168
   206
   Cr
   5.4
   5.6
   4.1
   4.4
   4.6
   4.0
   4.5
   4.8
   4.7
   TCO2
   29
   Glucose
   137
   127
   106
   101
   123
   135
   146
   131
   106
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   80-year-old man with
     * Respiratory failure (acute)
     * Cholangitis
 E. coli bacteremia
     * ATN
 acute renal failure
 dialysis
     * Probable ventilator-associated pneumonia
     * Borderline hypotension
 resolved
     * Recent atrial fibrillation
     * Volume overload
 improving
     * Severe aortic stenosis
   He is tolerating an SBT and we will give a trial of extubation today.
   We will be watchful for any tachycardia and consider esmolol for rate
   control if needed, given the severity of his aortic stenosis.  Redose
   vancomycin today.
   ICU Care
   Nutrition: NPO for now given extubaiton
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  H2B
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   5p
   Tolerated SBT and was extubated successfully today.  Doing well so far
   without support.
   Total critical care time today: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2116-7-12**] 09:01 PM ------

2116-07-13 07:28:00 Physician Resident Progress Note
Chief Complaint: Cholangitis/VAP
   24 Hour Events:
   Pt extubated yesterday. C. diff sent as pt having diarrhea. IV iron
   continued per renal recs. Na 145 D5W rate decreased from 100cc/hr to
   50cc/hr.
 INVASIVE VENTILATION - STOP [**2116-7-12**] 09:57 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-11**] 01:45 PM
   Cefipime - [**2116-7-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-12**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-13**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.3
C (95.6
   HR: 68 (53 - 68) bpm
   BP: 112/52(68) {98/39(58) - 141/74(82)} mmHg
   RR: 23 (11 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,837 mL
                                                                    397 mL
   PO:
             TF:
                                                                    140 mL
   IVF:
                                                                  1,467 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                     54 mL
                                                                      0 mL
   Urine:
                                                                     54 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,783 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PRVC/AC
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 98%
   ABG: ///25/
   Ve: 11.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   9.1 g/dL
   92 mg/dL
   6.3 mg/dL
   25 mEq/L
   4.0 mEq/L
   92 mg/dL
   104 mEq/L
   145 mEq/L
   28.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
                             [**2116-7-12**]  05:19 AM
                             [**2116-7-13**]  04:56 AM
   WBC
   14.3
   10.1
   11.1
   11.1
   9.4
   11.9
   10.7
   Hct
   24.6
   23.7
   23.5
   24.9
   24.8
   27.3
   25.0
   28.8
   Plt
   232
   192
   183
   171
   168
   206
   189
   Cr
   5.6
   4.1
   4.4
   4.6
   4.0
   4.5
   4.8
   4.7
   6.3
   TCO2
   29
   Glucose
   127
   106
   101
   123
   135
   146
   131
   106
   92
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and E. coli bacteremia now
   with ARF [**3-14**] ATN on dialysis likely due to sepsis and hypotension with
   VAP.
   # ARF:  Persists in ATN. HD  yesterday with 4L negative.  Creatinine
   continues to trend up with no evidence of recovery.
   -f/u renal recs
   -continue phosphate binder
   - Lytes daily
   # VAP/ ID:  Vancomycin and cefepime started for 8 day course Currently
   afebrile with resolving leukocytosis.  GPC in sputum e contaminate.
   D7 of abx today.
   - continue abx for a total of 8 days.
   # Respiratory: Completed SBT trial today. Will extubate. Keep esmolol
   at bedside as risk of pulmonary edema from atrial fibrillation.
   - extubation
   # Hypernatremia: Sodium 151. Free water deficit of 151. Will receive
   free water IV and PO once extubated. Will attempt to administer 2.5 L
   in first 8 hours
   - Free water IV 100 cc/hr
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
   # Anemia: iron studies consistent with iron deficiency and ACD
   - HCT stable, continue to monitor daily
   - Transfuse PRN
   - Iron transfusion with dialysis
    # Aortic stenosis- mod/sev, no vegetations, continue rate control with
   metoprolol.
   # A fib- currently in NSR, s/p cardioversion. Rate control with
   metoprolol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-13 12:03:00 Physician Attending Progress Note
Chief Complaint: Confused
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   scheduled for HD on Tuesday
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2116-7-12**] 09:57 AM
   History obtained from [**Hospital 85**] Medical records, confused
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-11**] 01:45 PM
   Cefipime - [**2116-7-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-12**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-13**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-13**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.4
C (95.8
   HR: 72 (53 - 72) bpm
   BP: 116/51(66) {98/39(58) - 139/77(85)} mmHg
   RR: 20 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,837 mL
                                                                    743 mL
   PO:
             120 mL
   TF:
                                                                    140 mL
   IVF:
                                                                  1,467 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                     54 mL
                                                                      0 mL
   Urine:
                                                                     54 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,783 mL
                                                                    743 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.1 g/dL
   189 K/uL
   92 mg/dL
   6.3 mg/dL
   25 mEq/L
   4.0 mEq/L
   92 mg/dL
   104 mEq/L
   145 mEq/L
   28.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2116-7-7**]  04:30 AM
                             [**2116-7-8**]  05:15 AM
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
                             [**2116-7-12**]  05:19 AM
                             [**2116-7-13**]  04:56 AM
   WBC
   14.3
   10.1
   11.1
   11.1
   9.4
   11.9
   10.7
   Hct
   24.6
   23.7
   23.5
   24.9
   24.8
   27.3
   25.0
   28.8
   Plt
   232
   192
   183
   171
   168
   206
   189
   Cr
   5.6
   4.1
   4.4
   4.6
   4.0
   4.5
   4.8
   4.7
   6.3
   TCO2
   29
   Glucose
   127
   106
   101
   123
   135
   146
   131
   106
   92
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
   ATN
   Seopsis
   Respiratory failure
   anemia
   Encephalopathy
   Oxygenating well on 2lpm.  Creat, phos up substantial and confusion
   much worse today - suggests he needs dialysis more frequently than
   3days. Difficult to quantify UO due to leak of Foley but certainly
   renal fxn not sufficient to forego HD
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2116-07-14 07:30:00 Physician Resident Progress Note
Chief Complaint: GNR bacteremia, cholangitis
   24 Hour Events:
   no HD today - per renal ok to hold
   MS - waxing and [**Doctor Last Name 42**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-11**] 01:45 PM
   Cefipime - [**2116-7-13**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-13**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-14**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 58 (58 - 75) bpm
   BP: 113/46(64) {95/42(58) - 159/117(126)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 116 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,806 mL
                                                                    181 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,266 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,806 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, trace edema to ankles
   bilaterally
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   9.1 g/dL
   111 mg/dL
   6.6 mg/dL
   22 mEq/L
   4.5 mEq/L
   104 mg/dL
   98 mEq/L
   138 mEq/L
   28.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2116-7-8**]  05:17 AM
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
                             [**2116-7-12**]  05:19 AM
                             [**2116-7-13**]  04:56 AM
                             [**2116-7-13**]  04:41 PM
                             [**2116-7-13**]  06:16 PM
   WBC
   11.1
   11.1
   9.4
   11.9
   10.7
   Hct
   23.5
   24.9
   24.8
   27.3
   25.0
   28.8
   Plt
   183
   171
   168
   206
   189
   Cr
   4.4
   4.6
   4.0
   4.5
   4.8
   4.7
   6.3
   6.2
   6.6
   TCO2
   29
   Glucose
   101
   123
   135
   146
   131
   106
   92
   424
   111
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:8.6 mg/dL
   Assessment and Plan
   80M transferred with cholangitis, s/p ERCP and E. coli bacteremia now
   with ARF [**3-14**] ATN on dialysis likely due to sepsis and hypotension with
   VAP.
   # ARF:  Persists in ATN.  No evidence of recovery.  On exam patient
   appears to be euvolemic with only trace pedal edema to ankles and
   slight L base rales, JVP of 8cm.
   -unable to obtain CVP off of HD cathter
   -orthostatics
   -continue HD per renal team
   -daily lytes
   -mental status seems clear, unclear reason for delirium yesterday
   -continue phosphate binder
   # VAP/ ID: done with 8 day course of vanc cefepime.
   -afebrile
   -wbc increased, add diff and follow wbc, if continues to increase would
   culture and cxr but clinically improving
   # Respiratory:  extubated on [**7-12**]
   -sating well and able to lay completely flat
   -wean O2
   # Hypernatremia: resolved, encourage PO intake.
   # Sepsis/Acute cholangitis (RUQ pain, jaundice, fever): s/p 7 day
   course of ampicillin, completed on [**7-5**], LFTs normalized, off pressors
   for several days.
   # Anemia: iron studies consistent with iron deficiency and ACD, IV iron
   x 8 days total.
   -hct drop to 23 today, down from 28.8, check p.m. hct and tx if < 21
   -continue IV iron
   -guiac stool
    -may need tranfusion with HD
    # Aortic stenosis- mod/sev, no vegetations, continue rate control with
   metoprolol.
   # A fib- currently in NSR, s/p cardioversion. Rate control with
   metoprolol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2116-07-14 11:01:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HD today
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-11**] 01:45 PM
   Cefipime - [**2116-7-13**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-7-13**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-7-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-14**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 64 (58 - 75) bpm
   BP: 106/50(63) {95/42(58) - 159/117(126)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116 kg (admission): 127 kg
   Height: 69 Inch
             Total In:
                                                                  1,806 mL
                                                                    301 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,266 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,806 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   199 K/uL
   89 mg/dL
   7.3 mg/dL
   21 mEq/L
   4.5 mEq/L
   117 mg/dL
   98 mEq/L
   138 mEq/L
   23.4 %
   12.9 K/uL
        [image002.jpg]
                             [**2116-7-8**]  01:43 PM
                             [**2116-7-9**]  03:03 AM
                             [**2116-7-10**]  05:13 AM
                             [**2116-7-10**]  03:47 PM
                             [**2116-7-11**]  03:58 AM
                             [**2116-7-12**]  05:19 AM
                             [**2116-7-13**]  04:56 AM
                             [**2116-7-13**]  04:41 PM
                             [**2116-7-13**]  06:16 PM
                             [**2116-7-14**]  05:49 AM
   WBC
   11.1
   11.1
   9.4
   11.9
   10.7
   12.9
   Hct
   23.5
   24.9
   24.8
   27.3
   25.0
   28.8
   23.4
   Plt
   183
   171
   168
   [**Telephone/Fax (3) 2992**]
   Cr
   4.4
   4.6
   4.0
   4.5
   4.8
   4.7
   6.3
   6.2
   6.6
   7.3
   Glucose
   101
   123
   135
   146
   131
   106
   92
   424
   111
   89
   Other labs: PT / PTT / INR:14.4/24.3/1.3, ALT / AST:44/17, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:9.6 mg/dL
   Assessment and Plan
   Septic shock
   ATN
   Anemia
   Volume overload
   Delerium
   MS has improved markedly w/o clear intervention.  No sign of infection.
   Following hct closely. For HD today - unclear if his urine output is
   improving as we cannot follow outputs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2116-7-6**] 01:17 PM
   PICC Line - [**2116-7-8**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes